2185-04-18 08:02:00 Physician Resident Progress Note
Chief Complaint: 75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**])
   presented to OSH cholangitis s/p biliary stenting now with GI bleed.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2185-4-17**] 12:30 PM
   hemodialysis cath in rt subclavian, using both ports in icu setting
   needed for emergency
 INVASIVE VENTILATION - START [**2185-4-17**] 01:48 PM
 FLUOROSCOPY - At [**2185-4-17**] 03:32 PM
 ENDOSCOPY - At [**2185-4-17**] 05:26 PM
 EKG - At [**2185-4-17**] 07:54 PM
 MULTI LUMEN - START [**2185-4-17**] 09:23 PM
 ARTERIAL LINE - START [**2185-4-18**] 12:32 AM
   floor transfer after low HCT hypotension s/p ERCP
   -intubated for airway protection for ERCP in setting of fluid
   rescusitation in HD patient.
   -repeat ERCP in ICU to stop bleeding with clot removal from sphincter
   and subsequent
   -transfused total of 3 units or PRBS for initial Hct 19, increased to
   27
   -had transient ST depressions in setting of low Hct, have resolved.
   -got LIJ and R a-line
   -Received IVF rescusitation initially using HD line emergently,
   continues to require high dose levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2185-4-18**] 12:11 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2185-4-17**] 06:00 PM
   Midazolam (Versed) - [**2185-4-17**] 06:15 PM
   Other medications:
   Metronidazole 500IV Q12
   Pantoprazole
   Ondansetron prn
   Sarna prn
   Nephrocaps
   Oxycodone prn
   Bisacodyl prn
   Risperidone
   Calcium acetate
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Intubated, sedated
   Flowsheet Data as of  [**2185-4-18**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 78 (63 - 97) bpm
   BP: 102/51(69) {95/48(64) - 128/59(82)} mmHg
   RR: 16 (1 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 8 (4 - 9)mmHg
   Total In:
                                                                  4,037 mL
                                                                  1,156 mL
   PO:
   TF:
   IVF:
                                                                  3,287 mL
                                                                    781 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  4,037 mL
                                                                    806 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 101
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   right neck hematoma at attempted line site
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), regular
   rate and rhythm
   Peripheral Vascular: Distal pulses palpable
   Respiratory / Chest: Rhoncorous mechanical breath sounds b/l
   Abdominal: Soft, Bowel sounds absent, tympanitic, tender to palpation,
   no guarding.
   Extremities: LUE>RUE pitting edema, no LE swelling
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Dry, scaly
   Neurologic: Intubated sedated, grimaces to pain.
   Labs / Radiology
   82 K/uL
   10.0 g/dL
   196 mg/dL
   4.6 mg/dL
   20 mEq/L
   5.6 mEq/L
   40 mg/dL
   99 mEq/L
   131 mEq/L
   27.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2185-4-17**]  04:20 PM
                             [**2185-4-17**]  06:43 PM
                             [**2185-4-17**]  10:20 PM
                             [**2185-4-18**]  03:25 AM
   WBC
   14.6
   Hct
   26.4
   24.7
   24.5
   27.4
   Plt
   82
   Cr
   4.0
   4.6
   TropT
   0.13
   Glucose
   206
   196
   Other labs: PT / PTT / INR:16.0/117.2/1.4, CK / CKMB /
   Troponin-T:8/2/0.13, ALT / AST:108/210, Alk Phos / T Bili:671/11.4,
   Amylase / Lipase:46/47, Albumin:2.0 g/dL, LDH:184 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**]) presented to OSH
   cholangitis s/p biliary stenting now with GI bleed.
   # Acute blood loss anemia: GI bleed likely at ERPC site in the setting
   of low platelets and recent restart of ASA. Brisk given hematochezia
   and signficant Hct drop. Repeat ERCP with active bleeding at the apex
   of the sphincterotomy site and overlying clot that was removed; local
   epi injections and cauterization were performed. No other evidence for
   ulcer, gastritis. Lower GI bleed less likely given ERCP visualization
   of active bleed.
   - Placed CVL
   - Intubated for ERCP, plan to extubate today
   - Hct Q6H, transfuse with goal Hct>30 given acute ECG changes, low CVP,
   overall goal with transfusion is fluid resuscitation.  Will use MAP and
   CVP primarily to guide transfusion/fluids
   - PPI IV bid
   - If continued bleeding, will consider tagged scan or angio; may need
   colonoscopy to rule-out lower source
   - Maintain active type and crossmatch
   - Hold all antiplatelet agents or anticoagulants
   #Hypotension.  Ddx includes most likely hypovolemic from blood loss
   with possible component of low forward flow in setting of cardiac
   demand ischemia, also on ddx is sepsis with GI source in setting of
   recent manipulation.
   -Continue pressors with goal MAP >60
   -IVF, blood for CVP >10
   -will increase abx coverage for possible sepsis to include better
   anaerobic coverage, will start flagyl and discuss with GI
   -Blood culture today.
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - GI recs levaquin IV renally dosed for 7 day course, however would
   like to broaden in include flagyl to cover anaerobes
   - Repeat ERCP with stent removal in 2 months
   -Pt
s pancreatic enzymes and Alk phos have come down however in setting
   of repeat ERCP T. bili has doubled with interval increase in LFTs
   somewhat concerning for worsened obstruction after instrumentation.
   -trend LFTs
   -d/w GI need for further imaging.
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker gived hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above
   - Trended cardiac enzymes, trop elevated but stable in setting of renal
   failure
   - Repeat ECG shows resolution of changes
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment. HIT antibody negative.
   Possibly related to zosyn (d/c'd on [**4-13**]).
   - Follow platelets, transfuse >50 if actively bleeding
   # ESRD on HD - Last HD on [**4-13**], K has been increasing in setting of
   transfusions.  Given hemodynamic instability will need CVVH with goal
   net even.
   -f/u renal recs
   -EKG if K >6
   -check K after transfusion
   -CVVH today
   -continue nephrocaps, calcium acetate
   -renally dose meds
   #Respiratory failure. Intubated for respiratory protection in setting
   of ERCP, both pt and son are adamantly against prolonged intubation.
   -wean sedation and attempt to wean vent today as patient tolerates
   -d/w son his feeling on extubating if she is unstable and whether he
   would perfer to cautiously vs aggressively wean pt from vent.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control: Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   CVL
   Art line
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU

2185-04-18 08:57:00 Physician Attending Progress Note
Chief Complaint: hypotension/GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo female with CAD s/p NSTEMI, amyloidosis, ESRD/HD admitted with
   cholangitis s/p CBD stent/gallstone extraction, course complicated by
   sphincteromotoy bleed [**4-16**] with shock/acute blood loss anemia
   24 Hour Events:
   *ERCP with bleeding at sphincteromy site- treated
   *Elective intubation pre-ERCP for airway
   *CVL placed; a-line placed
   *Transfused
   *Remained pressor-dependent, on levophed
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2185-4-18**] 12:11 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2185-4-17**] 06:00 PM
   Midazolam (Versed) - [**2185-4-17**] 06:15 PM
   Other medications:
   Risperdol, Ca acetate, nephrocap
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-18**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 78 (63 - 97) bpm
   BP: 102/51(69) {95/48(64) - 128/59(82)} mmHg
   RR: 16 (1 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 8 (4 - 9)mmHg
   Total In:
                                                                  4,037 mL
                                                                  1,177 mL
   PO:
   TF:
   IVF:
                                                                  3,287 mL
                                                                    802 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  4,037 mL
                                                                    827 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 101
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) OG
   tube, right neck hematoma at attempted IJ site
   Cardiovascular: (PMI Normal), (S1: Normal, No(t) Absent), (S2: Normal,
   No(t) Distant), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: , hypoactive
   Extremities: L>R UE edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   82 K/uL
   196 mg/dL
   4.6 mg/dL
   20 mEq/L
   5.6 mEq/L
   40 mg/dL
   99 mEq/L
   131 mEq/L
   27.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2185-4-17**]  04:20 PM
                             [**2185-4-17**]  06:43 PM
                             [**2185-4-17**]  10:20 PM
                             [**2185-4-18**]  03:25 AM
   WBC
   14.6
   Hct
   26.4
   24.7
   24.5
   27.4
   Plt
   82
   Cr
   4.0
   4.6
   TropT
   0.13
   Glucose
   206
   196
   Other labs: PT / PTT / INR:16.0/117.2/1.4, CK / CKMB /
   Troponin-T:8/2/0.13, ALT / AST:108/210, Alk Phos / T Bili:671/11.4,
   Amylase / Lipase:46/47, Albumin:2.0 g/dL, LDH:184 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.8 mg/dL
   Microbiology: [**4-7**] BdCx negative
   Assessment and Plan
   75 year old female with amyloidosis, ESRD on HD, recent NSTEMI with
   cholangitis s/p eRCP complicated by sphincteromy leak
   #GI bleed/acute blood loss anemia: Hct beginning to respond to
   transfusion. Continue serial hct's, transfuse. On PPI.
   #Shock, hypovolemic: remains pressor-dependent and based on CVP still
   hypovolemic. Could have some contribution from sepsis. Already on LVQ,
   will add flagyl for improved anaerobic coverage and also obtain
   cultures. Continue resuscitation. Cont pressors to maintain MAP>65
   #Cholangitis: now with rising TBili. Check fractionated bili's, recheck
   LFT's later today, discuss with GI.
   #Cardiac ischemia: EKG changes improved after transfusion. Continue to
   hold aspirin/plavix.
   #ESRD: CVVHD
   #Acute resp failure: intubated for airway protection during ERCP.
   Weaning off sedation, attempt SBT today and hope to extubate
   #Thrombocytopenia: cause unclear. [**Name2 (NI) 59**] acute need for transfusion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Arterial Line - [**2185-4-18**] 12:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-04-19 07:47:00 Physician Resident Progress Note
Chief Complaint: 75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**])
   presented to OSH cholangitis s/p biliary stenting now with GI bleed.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2185-4-18**] 01:38 PM
   - Extubated in am, satting well
   - Rec'd 1u prbcs in am, post-tx Hct 27.1 (from 27.4), written for
   addition unit at 7pm though it was not given so post-tx Hct was
   actually 8 hours after initial unit and was down to 25.5; getting
   additional unit around MN, post-tx Hct this am
   - Renal recs: Plan for HD in am if off pressors, maintain K+ less than
   6.1, as patient not able to take POs yet, would try insulin/dextrose
   for elevated K+ -> K+ was stable, will await recs on HD vs. CVVH this
   am as patient still on minimal levophed
   - Bcx sent in am
   - Flagyl added for anaerobic coverage
   - D.bili 10.6
   - LFTs in pm downtrending except Tbili the same at 11.5 (from 11.4)
   - Unable to wean off levophed, on 0.06 mcg for most of the day then
   down to 0.03
   - Persistently elevated FSBG, written for HISS
   - Called for pos blood culture [**12-29**] GPC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-4-19**] 12:00 AM
   Levofloxacin - [**2185-4-19**] 03:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-4-19**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-19**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96.1
   HR: 72 (69 - 88) bpm
   BP: 111/47(70) {89/41(59) - 150/143(147)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 6 (0 - 267)mmHg
   Total In:
                                                                  1,910 mL
                                                                    686 mL
   PO:
   TF:
   IVF:
                                                                  1,160 mL
                                                                    311 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                    450 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  1,460 mL
                                                                    686 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 372 (372 - 453) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.44/30/205/21/-1
   Ve: 7.8 L/min
   PaO2 / FiO2: 512
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   right neck hematoma at attempted line site
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), regular
   rate and rhythm
   Peripheral Vascular: Distal pulses palpable
   Respiratory / Chest: Rhoncorous mechanical breath sounds b/l
   Abdominal: Soft, Bowel sounds absent, tympanitic, tender to palpation,
   no guarding.
   Extremities: LUE>RUE pitting edema, no LE swelling
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Dry, scaly
   Neurologic: Intubated sedated, grimaces to pain.
   Labs / Radiology
   77 K/uL
   10.5 g/dL
   130 mg/dL
   4.8 mg/dL
   21 mEq/L
   5.5 mEq/L
   47 mg/dL
   101 mEq/L
   132 mEq/L
   28.7 %
   13.0 K/uL
        [image002.jpg]
                             [**2185-4-17**]  04:20 PM
                             [**2185-4-17**]  06:43 PM
                             [**2185-4-17**]  10:20 PM
                             [**2185-4-18**]  03:25 AM
                             [**2185-4-18**]  10:25 AM
                             [**2185-4-18**]  03:45 PM
                             [**2185-4-18**]  09:32 PM
                             [**2185-4-19**]  05:03 AM
   WBC
   14.6
   13.0
   Hct
   26.4
   24.7
   24.5
   27.4
   27.1
   25.5
   28.7
   Plt
   82
   77
   Cr
   4.0
   4.6
   4.8
   TropT
   0.13
   0.13
   TCO2
   21
   Glucose
   [**Telephone/Fax (3) 2326**]
   Other labs: PT / PTT / INR:16.0/43.8/1.4, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:69/86, Alk Phos / T Bili:564/12.1,
   Amylase / Lipase:46/47, Albumin:1.8 g/dL, LDH:162 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**]) presented to OSH
   cholangitis s/p biliary stenting now with GI bleed.
   # Acute blood loss anemia: GI bleed likely at ERPC site in the setting
   of low platelets and recent restart of ASA. Brisk given hematochezia
   and signficant Hct drop. Repeat ERCP with active bleeding at the apex
   of the sphincterotomy site and overlying clot that was removed; local
   epi injections and cauterization were performed. No other evidence for
   ulcer, gastritis. Lower GI bleed less likely given ERCP visualization
   of active bleed.
   - Placed CVL
   - Intubated for ERCP, plan to extubate today
   - Hct Q6H, transfuse with goal Hct>30 given acute ECG changes, low CVP,
   overall goal with transfusion is fluid resuscitation.  Will use MAP and
   CVP primarily to guide transfusion/fluids
   - PPI IV bid
   - If continued bleeding, will consider tagged scan or angio; may need
   colonoscopy to rule-out lower source
   - Maintain active type and crossmatch
   - Hold all antiplatelet agents or anticoagulants
   #Hypotension.  Ddx includes most likely hypovolemic from blood loss
   with possible component of low forward flow in setting of cardiac
   demand ischemia, also on ddx is sepsis with GI source in setting of
   recent manipulation.
   -Continue pressors with goal MAP >60
   -IVF, blood for CVP >10
   -will increase abx coverage for possible sepsis to include better
   anaerobic coverage, will start flagyl and discuss with GI
   -Blood culture today.
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - GI recs levaquin IV renally dosed for 7 day course, however would
   like to broaden in include flagyl to cover anaerobes
   - Repeat ERCP with stent removal in 2 months
   -Pt
s pancreatic enzymes and Alk phos have come down however in setting
   of repeat ERCP T. bili has doubled with interval increase in LFTs
   somewhat concerning for worsened obstruction after instrumentation.
   -trend LFTs
   -d/w GI need for further imaging.
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker gived hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above
   - Trended cardiac enzymes, trop elevated but stable in setting of renal
   failure
   - Repeat ECG shows resolution of changes
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment. HIT antibody negative.
   Possibly related to zosyn (d/c'd on [**4-13**]).
   - Follow platelets, transfuse >50 if actively bleeding
   # ESRD on HD - Last HD on [**4-13**], K has been increasing in setting of
   transfusions.  Given hemodynamic instability will need CVVH with goal
   net even.
   -f/u renal recs
   -EKG if K >6
   -check K after transfusion
   -CVVH today
   -continue nephrocaps, calcium acetate
   -renally dose meds
   #Respiratory failure. Intubated for respiratory protection in setting
   of ERCP, both pt and son are adamantly against prolonged intubation.
   -wean sedation and attempt to wean vent today as patient tolerates
   -d/w son his feeling on extubating if she is unstable and whether he
   would perfer to cautiously vs aggressively wean pt from vent.
   ICU Care
   Nutrition:
   Passed bedside speech and swallow, started on full liquids today,
   nutrition c/s for albumin of 1.8
   Glycemic Control: Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   CVL
   Art line
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None), no heparin for bleed
   Stress ulcer: PPI [**Hospital1 **] IV
   VAP: extubated
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR/DNI, pressors ok
   Disposition: ICU

2185-04-19 12:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 year old female with amyloidosis, ESRD on HD, recent NSTEMI with
   cholangitis s/p eRCP complicated by sphincteromy leak. HoTN requiring
   pressors.
   24 Hour Events:
   blood cx data revealed [**4-1**] blood cx + GPC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-4-19**] 12:00 AM
   Levofloxacin - [**2185-4-19**] 03:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-4-19**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, discomfort associated with being in bed x 3d
   Pain: [**12-29**] Minimal
   Pain location: abdominal- diffuse
   Flowsheet Data as of  [**2185-4-19**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 101 (69 - 101) bpm
   BP: 124/49(70) {95/37(59) - 150/143(147)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 5 (0 - 9)mmHg
   Total In:
                                                                  1,910 mL
                                                                    760 mL
   PO:
   TF:
   IVF:
                                                                  1,160 mL
                                                                    385 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                    450 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  1,460 mL
                                                                    760 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 372 (372 - 372) mL
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, anasarca
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   77 K/uL
   130 mg/dL
   4.8 mg/dL
   21 mEq/L
   5.5 mEq/L
   47 mg/dL
   101 mEq/L
   132 mEq/L
   29.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2185-4-17**]  04:20 PM
                             [**2185-4-17**]  06:43 PM
                             [**2185-4-17**]  10:20 PM
                             [**2185-4-18**]  03:25 AM
                             [**2185-4-18**]  10:25 AM
                             [**2185-4-18**]  03:45 PM
                             [**2185-4-18**]  09:32 PM
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
   WBC
   14.6
   13.0
   Hct
   26.4
   24.7
   24.5
   27.4
   27.1
   25.5
   28.7
   29.1
   Plt
   82
   77
   Cr
   4.0
   4.6
   4.8
   TropT
   0.13
   0.13
   TCO2
   21
   Glucose
   [**Telephone/Fax (3) 2326**]
   Other labs: PT / PTT / INR:16.0/43.8/1.4, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:69/86, Alk Phos / T Bili:564/12.1,
   Amylase / Lipase:46/47, Albumin:1.8 g/dL, LDH:162 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   75 year old female with amyloidosis, ESRD on HD, recent NSTEMI with
   cholangitis s/p ERCP with multiple stents complicated by sphincteromy
   bleed. GPC bacteremia. Severe hypoalbuminemia.
   #BPC bacteremia.
   DDx: HD line (present x 3 months according to pt), left IJ CVC, GI
   instrumentation. Will change abx to continue levofloxacin for 7d course
   and add vanco. D/C flagyl.
   Discuss with renal. Will d/c HD line if hypo/hyperthermic or pressor
   requirement increases. In meantime will treat through it until we have
   speciation of GPC. Pt is an extremely difficult access with CVC.
   #GI bleed/acute blood loss anemia: Hct appropriately responded to
   transfusion. Continue serial hct's, transfuse as nec.
   #Shock, hypovolemic and septic with blood loss and bacteremia: remains
   pressor-dependent.
   Transfuse to hct > 30%. 1 additional U PRBC now.
   #Cholangitis: Tbili continues to rise, but remainder of LFTs improved
   and WBC 14.6
   #Cardiac ischemia: EKG changes improved after transfusion. Continue to
   hold aspirin/plavix, beta blocker.
   #ESRD: s/p HD.
    #Acute resp failure: intubated for airway protection during ERCP. Now
   normal resp status. Not requiring supplemental oxygen.
   #Thrombocytopenia: cause unclear. [**Name2 (NI) 59**] acute need for transfusion.
   #Nutrition. Evaluate swallow and advance diet as tolerated.
   #Pain mostly associated with laying in bed x 3d. Try to get OOB and low
   dose morphine.
   ICU Care
   Nutrition: PO diet.
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Arterial Line - [**2185-4-18**] 12:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-04-20 07:31:00 Physician Resident Progress Note
Chief Complaint: 75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**])
   presented to OSH cholangitis s/p biliary stenting now with GI bleed.
   24 Hour Events:
   - speciation pending on GPCs; repeated blood cultures from HD and CVL
   - tolerated POs well
   - repeat HCT and K stable
   - renal will do UF in AM from AV fistula- keep HD line for now until
   speciation returns
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-4-19**] 12:30 PM
   Vancomycin - [**2185-4-19**] 01:51 PM
   Levofloxacin - [**2185-4-20**] 12:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-4-19**] 07:40 AM
   Morphine Sulfate - [**2185-4-20**] 02:49 AM
   Other medications:
   ISS
   Ondansetron
   Sarna
   oxycodone
   Risperdone
   Nephrocaps
   Bisacodyl
   Ca Acetate
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-20**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 89 (70 - 101) bpm
   BP: 125/53(77) {97/37(59) - 137/58(86)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 5 (5 - 6)mmHg
   Total In:
                                                                  1,994 mL
                                                                    364 mL
   PO:
                                                                    440 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    804 mL
                                                                    124 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: awake, alert and oriented.  Pleasant
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic,  right neck hematoma at
   attempted line site, MMdry
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), regular
   rate and rhythm
   Peripheral Vascular: Distal pulses palpable
   Respiratory / Chest: CTAB anteriorly
   Abdominal: Soft, hypoactive BS.  Minimally tender to palpation,
   tympanitic
   Extremities: LUE>RUE pitting edema, no LE swelling
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Dry, scaly, increased jaundice
   Neurologic: A+O x 3.  Moving all extremities. Pleasant
   Labs / Radiology
   57 K/uL
   10.7 g/dL
   113 mg/dL
   3.0 mg/dL
   26 mEq/L
   4.3 mEq/L
   29 mg/dL
   104 mEq/L
   136 mEq/L
   28.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2185-4-17**]  06:43 PM
                             [**2185-4-17**]  10:20 PM
                             [**2185-4-18**]  03:25 AM
                             [**2185-4-18**]  10:25 AM
                             [**2185-4-18**]  03:45 PM
                             [**2185-4-18**]  09:32 PM
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
                             [**2185-4-19**]  05:09 PM
                             [**2185-4-20**]  02:34 AM
   WBC
   14.6
   13.0
   12.4
   Hct
   24.7
   24.5
   27.4
   27.1
   25.5
   28.7
   29.1
   32.7
   28.9
   Plt
   82
   77
   57
   Cr
   4.6
   4.8
   3.0
   TropT
   0.13
   TCO2
   21
   Glucose
   196
   130
   113
   Other labs: PT / PTT / INR:16.5/41.6/1.5, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:53/51, Alk Phos / T Bili:518/11.5,
   Amylase / Lipase:46/47, Fibrinogen:438 mg/dL, Albumin:1.8 g/dL, LDH:153
   IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Micro:
   4/4 bottles blood cultures 4/21 from A-line positive for GPCs in pairs
   and clusters
   2/2 bottles positive [**4-19**] from HD line, 4/22 bottles from CVL =
   pending.
   [**4-20**] blood cultures from a-line pending
   Assessment and Plan
   75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**]) presented to OSH
   cholangitis s/p biliary stenting now with GI bleed.
   #Bacteremia. Potential sources HD catheter, esp as accessed emergently
   for IVF and pressors, also CVL/arterial line and ERCP manipulation.
   -continue levaquin for GI coverage after complicated ERCP
   -1g Vancomycin now, dosed with HD for GPC
   -follow up speciation and sensitivities of bacteria, adjust abx
   accordingly
   -draw cultures off all indwelling lines
   -make renal aware of new bacteremia and discuss plans regarding need to
   remove HD catheter
   -consider TTE followed by TEE to evaluate for endocarditis
   -daily surveillance cultures
   # Acute blood loss anemia: GI bleed likely at ERPC site in the setting
   of low platelets and recent restart of ASA. Brisk given hematochezia
   and signficant Hct drop. Repeat ERCP with active bleeding at the apex
   of the sphincterotomy site and overlying clot that was removed; local
   epi injections and cauterization were performed. No other evidence for
   ulcer, gastritis. Lower GI bleed less likely given ERCP visualization
   of active bleed.
   - Placed CVL
   - Has been receiving PRBCs for [**Last Name (LF) 2339**], [**First Name3 (LF) 178**] give an additional
   unit this am with goal Hct >30 in setting of active CAD.
   - Repeat Hct this afternoon
   - keep active T&S
   - PPI IV bid
   - If continued bleeding, will consider tagged scan or angio; may need
   colonoscopy to rule-out lower source
   - Maintain active type and crossmatch
   - Hold all antiplatelet agents or anticoagulants
   #Hypotension.  Initially more of a hypovolemic shock picture, however
   was confusing initially as was persistently requiring pressors despite
   adequate fluid rescusitation.  Now with known bacteremia, presume that
   septic shock is more likely predominant factor.
   -Continue pressors with goal MAP >60
   -IVF, blood for CVP >10, will give blood as above for Hct goal >30
   -Will d/c flagyl as no known anaerobic source for infection and start
   -treat GPC bacteremia as above with vanc, follow cultures, hope that
   once bacteremia treated pt will tolerate weaning from pressors.
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - GI recs levaquin IV renally dosed for 7 day course
   - Repeat ERCP with stent removal in 2 months
   -Pt
s pancreatic enzymes and Alk phos have come down however in setting
   of repeat ERCP T. bili has doubled with interval increase in LFTs
   somewhat concerning for worsened obstruction after instrumentation.
   -trend LFTs
   -d/w GI need for further imaging.
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker gived hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >30
   - Trended cardiac enzymes, trop elevated but stable in setting of renal
   failure
   - Repeat ECG shows resolution of changes
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment. HIT antibody negative.
   Possibly related to zosyn (d/c'd on [**4-13**]).
   - Follow platelets, transfuse >50 if actively bleeding
   - repeat DIC labs
   # ESRD on HD
 HD today (on pressors), removed 1L.
   -f/u renal recs
   -EKG if K >6
   -check K after transfusion
   -continue nephrocaps, calcium acetate
   -renally dose meds
   #Respiratory failure. Extubated, sating well on RA, resolved.
   ICU Care
   Nutrition:
   Passed bedside speech and swallow, started on full liquids today,
   nutrition c/s for albumin of 1.8
   Glycemic Control: Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   CVL
   Art line
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None), no heparin for bleed
   Stress ulcer: PPI [**Hospital1 **] IV
   VAP: extubated
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR/DNI, pressors ok
   Disposition: ICU

2185-04-20 12:21:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   75 yo F w/ESRD [**1-29**] amyloidosis on HD admitted in early [**4-5**]
   w/cholangitis s/p ERCP/CBD stent placement and gallstone extraction c/b
   blding at sphincterotomy site --> blood loss anemia, shock (hypovolemic
   +/- septic), and demand ischemia.  Transferred to [**Hospital Unit Name 44**] for emergent
   ERCP w/local blding control (extubated for procedure).  Off pressors
   x24hrs.  Bacteremic w/VRE.
   24 Hour Events:
   [**4-18**] bld cx [**4-1**] (off a-line) - VRE
   [**4-19**] bld cx 2 (off HD line)/4 - VRE
   off pressors x24hrs
   tol POs
   HD today via AVF/line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-4-19**] 12:30 PM
   Vancomycin - [**2185-4-19**] 01:51 PM
   Levofloxacin - [**2185-4-20**] 12:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-4-20**] 08:00 AM
   Morphine Sulfate - [**2185-4-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-20**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 106 (89 - 106) bpm
   BP: 101/47(62) {94/43(57) - 137/58(86)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 5 (5 - 6)mmHg
   Total In:
                                                                  1,994 mL
                                                                    420 mL
   PO:
                                                                    440 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    804 mL
                                                                    180 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,000 mL
                                                                  2,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                 -1,580 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Eyes / Conjunctiva: sclerae icteric
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   II-III/VI SEM at RUSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases laterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   57 K/uL
   113 mg/dL
   3.0 mg/dL
   26 mEq/L
   4.3 mEq/L
   29 mg/dL
   104 mEq/L
   136 mEq/L
   28.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2185-4-17**]  06:43 PM
                             [**2185-4-17**]  10:20 PM
                             [**2185-4-18**]  03:25 AM
                             [**2185-4-18**]  10:25 AM
                             [**2185-4-18**]  03:45 PM
                             [**2185-4-18**]  09:32 PM
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
                             [**2185-4-19**]  05:09 PM
                             [**2185-4-20**]  02:34 AM
   WBC
   14.6
   13.0
   12.4
   Hct
   24.7
   24.5
   27.4
   27.1
   25.5
   28.7
   29.1
   32.7
   28.9
   Plt
   82
   77
   57
   Cr
   4.6
   4.8
   3.0
   TropT
   0.13
   TCO2
   21
   Glucose
   196
   130
   113
   Other labs: PT / PTT / INR:16.5/41.6/1.5, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:53/51, Alk Phos / T Bili:518/11.5,
   Amylase / Lipase:46/47, Fibrinogen:438 mg/dL, Albumin:1.8 g/dL, LDH:153
   IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Microbiology: see HPI
   Assessment and Plan
   75 yo F w/amyloidosis, ESRD on HD, recent NSTEMI w/cholangitis s/p ERCP
   with multiple stents c/b sphincterotomy bleed.  VRE bacteremia.  Severe
   hypoalbuminemia.
   #VRE bacteremia - likely [**1-29**] GI instrumentation
   -Hemodynamically stable
   -d/w ID best antimicrobial (linezolid problem[**Name (NI) 1114**] w/thrombocytopenia,
   daptomycin problem[**Name (NI) 1114**] w/potential LFT abnls
   -needs HD line re-sited, d/c a-line
   -follow surveillance cxs
   #ESRD
   -s/p HD today
   #Anemia
   -bumped appropriately after 1 U PRBC yest, though trending down again-
   following, no e/o overt bleeding though stools guaiac positive
   #Thrombocytopenia
   -No e/o DIC, not getting any heparin products (gets citrate w/HD)
   -?[**1-29**] infection vs. med related (was on levofloxacin, which can rarely
   cause thrombocytopenia)
   #FEN
   -Tolerating POs
   #Cholangitis - liver enzymes trending down.  Needs rpt ERCP for stent
   removal in 2 mos.
   #PPx
   -PO PPI
   -p-boots
   -PT consult
   DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Arterial Line - [**2185-4-18**] 12:32 AM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PO PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :
   Total time spent:

2185-04-21 07:13:00 Physician Resident Progress Note
Chief Complaint: 75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**])
   presented to OSH cholangitis s/p biliary stenting now with GI bleed
   24 Hour Events:
 ARTERIAL LINE - STOP [**2185-4-20**] 12:59 PM
 TRANSTHORACIC ECHO - At [**2185-4-20**] 02:16 PM
 BLOOD CULTURED - At [**2185-4-21**] 05:23 AM
   -Persistently bacteremic with VRE
   -Dapto started per ID, will formally consult today
   -D/c'd vanc and levaquin
   -D/c'd a-line
   -Low CVPs, low MAPs overnight, given 250 cc NS bolus x 2 with some
   effect, giving an add'l 500 this am.
   -PM Hct increased to 30, platelets slightly up to 62
   -Worked with PT, [**Hospital 2381**] rehab
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-4-19**] 12:30 PM
   Vancomycin - [**2185-4-19**] 01:51 PM
   Levofloxacin - [**2185-4-20**] 12:38 AM
   Daptomycin - [**2185-4-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-4-20**] 09:00 PM
   Morphine Sulfate - [**2185-4-21**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-21**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 91 (91 - 118) bpm
   BP: 94/49(61) {83/37(55) - 116/63(73)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 3 (1 - 5)mmHg
   Total In:
                                                                  1,290 mL
                                                                    520 mL
   PO:
                                                                    940 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                      0 mL
   Urine:
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: awake, alert and oriented
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic,  right neck hematoma, MMdry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic [**2-2**]),
   regular rate and rhythm, intermittant afib on telemetry
   Peripheral Vascular: Distal pulses palpable
   Respiratory / Chest: CTAB anteriorly, decreased BS at bases
   Abdominal: Soft, hypoactive BS.  Minimally tender to palpation
   Extremities: UE pitting edema, no LE swelling
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Dry, scaly, jaundiced
   Neurologic: A+O x 3.  Moving all extremities. Pleasant
   Labs / Radiology
   54 K/uL
   8.8 g/dL
   113 mg/dL
   3.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   31 mg/dL
   103 mEq/L
   136 mEq/L
   25.0 %
   11.0 K/uL
        [image002.jpg]
   ALT 60 (53)
   AST 136 (51)
   ALP 395 (518)
   LDH 188 (153)
   Tbili 6.3 (11.5)
   Alb 1.7
                             [**2185-4-18**]  03:25 AM
                             [**2185-4-18**]  10:25 AM
                             [**2185-4-18**]  03:45 PM
                             [**2185-4-18**]  09:32 PM
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
                             [**2185-4-19**]  05:09 PM
                             [**2185-4-20**]  02:34 AM
                             [**2185-4-20**]  04:10 PM
                             [**2185-4-21**]  05:11 AM
   WBC
   14.6
   13.0
   12.4
   11.0
   Hct
   27.4
   27.1
   25.5
   28.7
   29.1
   32.7
   28.9
   30.6
   25.0
   Plt
   82
   77
   57
   61
   54
   Cr
   4.6
   4.8
   3.0
   TropT
   0.13
   TCO2
   21
   Glucose
   196
   130
   113
   Other labs: PT / PTT / INR:16.5/41.6/1.5, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:53/51, Alk Phos / T Bili:518/11.5,
   Amylase / Lipase:46/47, Fibrinogen:438 mg/dL, Albumin:1.8 g/dL, LDH:153
   IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Imaging: ECHO [**4-20**]: The left atrium is elongated. There is mild
   symmetric left ventricular hypertrophy. The left ventricular cavity
   size is normal. Overall left ventricular systolic function is normal
   (LVEF>55%). There is no ventricular septal defect. Right ventricular
   chamber size and free wall motion are normal. The aortic arch is mildly
   dilated. The aortic valve leaflets (3) are mildly thickened. No masses
   or vegetations are seen on the aortic valve. There is mild aortic valve
   stenosis (area 1.2-1.9cm2). Mild (1+) aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. There is no mitral valve
   prolapse. No mass or vegetation is seen on the mitral valve. Mild (1+)
   mitral regurgitation is seen. [Due to acoustic shadowing, the severity
   of mitral regurgitation may be significantly UNDERestimated.] The
   tricuspid valve leaflets are mildly thickened. The pulmonary artery
   systolic pressure could not be determined. No vegetation/mass is seen
   on the pulmonic valve. There is no pericardial effusion.
   Microbiology: [**4-18**]: Bcx: [**4-1**] VRE
   [**4-19**]: Bcx: [**4-1**] GPC in pairs/chains
   [**4-20**]: Bcx: [**1-31**] GPC in pairs/chains
   [**4-21**]: Bcx: [**1-29**]: NGTD
   Assessment and Plan
   75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**]) presented to OSH
   cholangitis s/p biliary stenting now with GI bleed.
   # Bacteremia. Most likely source is GI tract from ERCP manipulation.
   Other potential sources are HD catheter, esp as accessed emergently for
   IVF and pressors.  Blood cultures growing VRE, consulted ID.
   Daptomycin started, renally dosed; Will change to Linezolid per ID.
   - Have d/c
d vanc and levaquin
   - Cultures off HD line positive before CVL positive, suspect this line
   may be seeded.  D/w renal, plan to leave in for now.  ID recommending
   resiting, though given poor HD access, renal would like to leave it
   in.
   - Will plan to get paired cultures today (one off HD line during
   dialysis and one peripherally to help determine if HD line is source to
   potentially avoid needing to remove line)
   - A-line removed yesterday
   - TTE showing no vegetations, can consider TEE though this will only
   help with determining length of treatment.  Will continue to discuss
   with ID
   -Daily surveillance cultures, continue to follow micro
   # Acute blood loss anemia: GI bleed likely at ERCP site in the setting
   of low platelets and recent restart of ASA. Has required 6 units of
   blood since admission. No blood products yesterday.  Hct this morning
   decreased from prior.  Patient has not had report of guaiac positive
   stools since admission, though has not had a BM for 48 hours.
   Concerning that there is another source of bleeding given that her HCT
   continues to fall.  No e/o hemolysis.
   - Will transfuse one unit pRBCs this morning. Check post-transfusion
   Hct. Transfuse if below 28.
   - If pm Hct does not bump appropriately, will get CT abdomen to
   evaluate for other possible source
   - Guaiac all stools
   - Keep active T&C
   - PPI PO bid
   - Hold all antiplatelet agents or anticoagulants
   - Epo with HD
   # Atrial fibrillation: Patient in paroxysmal afib as of this morning.
   Became transiently hypotensive with high rates not responsive to fluid
   bolus.  Potential causes include high grade bacteremia, hypotension,
   ischemia though this is less likely.  Patient cannot be anticoagulated
   due to ongoing bleed.
   - Will plan to PO amio load patient this morning, will keep a close eye
   on patient
s blood pressures as she has had MAPs around 60 overnight.
   - As infection improves, afib may resolve, will plan to dc amio in a
   few days after she has been on appropriate antibiotics for her
   bacteremia.
   - Continue to monitor on telemetry
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment.  Repeat DIC labs
   negative.  HIT antibody negative. Possibly related to zosyn (d/c'd on
   [**4-13**]) and levoflox which can rarely cause thrombocytopenia, dc
d [**4-20**].
   Most likely due to sepsis, though may also be due to pantoprazole which
   can rarely cause this (<1%).
   - Follow platelets [**Hospital1 **] today, transfuse >50 if actively bleeding
   # Hypotension.  Initially more of a hypovolemic shock picture, however
   was confusing initially as was persistently requiring pressors despite
   adequate fluid rescusitation.  Now with known bacteremia, presume that
   septic shock is more likely predominant factor.  Now off pressors >48H
   despite persistent bacteremia. Has required two small fluid boluses
   over the last 24 hours for low BPs.
   - Continue Linezolid as above
   - Continue to monitor SBP, CVP, IVF vs. blood based on CVP
   - Caution with fluid removal with HD
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - Linezolid as above as VRE likely from GI source
   - Repeat ERCP with stent removal in 2 months
   - T. bili elevated, although trending down now over last 2 days
   - Continue to trend LFTs
   - D/w GI need for further imaging.
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker gived hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >28
   - Trended cardiac enzymes, trop elevated but stable in setting of renal
   failure
   - Repeat ECG shows resolution of changes
   # ESRD on HD
 HD today, removed 2kg UF yesterday.
   -f/u renal recs
   -EKG if K >6
   -check K after transfusions
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds, daptomycin is q48
   #Respiratory failure. Extubated, sating well on RA, resolved.
   ICU Care
   Nutrition:
   PO, cardiac/renal diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2185-04-21 10:36:00 Physician Attending Progress Note
Chief Complaint: Anemia with blood loss, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo F w/amyloidosis, ESRD on HD, recent NSTEMI w/cholangitis s/p ERCP
   with multiple stents c/b sphincterotomy bleed.  VRE bacteremia.  Severe
   hypoalbuminemia.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2185-4-20**] 12:59 PM
 TRANSTHORACIC ECHO - At [**2185-4-20**] 02:16 PM
 BLOOD CULTURED - At [**2185-4-21**] 05:23 AM
   Atrial fibrillation this morning. Rhythm alternating between sinus and
   afib after fluid bolus.
   Hct stable yesterday, but dropped this morning 30--> 25%.
   Blood cx + from [**4-18**], 22, 23 VRE.
   Removed a-line.
   Hypotension, some improvement with fluid boluses.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-4-19**] 12:30 PM
   Vancomycin - [**2185-4-19**] 01:51 PM
   Levofloxacin - [**2185-4-20**] 12:38 AM
   Daptomycin - [**2185-4-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-4-20**] 09:00 PM
   Morphine Sulfate - [**2185-4-21**] 01:00 AM
   Other medications:
   respiridone
   iss
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-21**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.4
   HR: 129 (91 - 139) bpm
   BP: 87/50(60) {83/37(55) - 116/63(73)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 9 (1 - 9)mmHg
   Total In:
                                                                  1,290 mL
                                                                  1,294 mL
   PO:
                                                                    940 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    350 mL
                                                                  1,054 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                      0 mL
   Urine:
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                  1,294 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese, awake, comfortable
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bilat bases), clear anterior, no wheezes
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+, Cyanosis
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): all, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   54 K/uL
   86 mg/dL
   3.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   31 mg/dL
   103 mEq/L
   136 mEq/L
   25.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2185-4-18**]  03:25 AM
                             [**2185-4-18**]  10:25 AM
                             [**2185-4-18**]  03:45 PM
                             [**2185-4-18**]  09:32 PM
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
                             [**2185-4-19**]  05:09 PM
                             [**2185-4-20**]  02:34 AM
                             [**2185-4-20**]  04:10 PM
                             [**2185-4-21**]  05:11 AM
   WBC
   14.6
   13.0
   12.4
   11.0
   Hct
   27.4
   27.1
   25.5
   28.7
   29.1
   32.7
   28.9
   30.6
   25.0
   Plt
   82
   77
   57
   61
   54
   Cr
   4.6
   4.8
   3.0
   3.8
   TropT
   0.13
   TCO2
   21
   Glucose
   196
   130
   113
   86
   Other labs: PT / PTT / INR:16.6/42.4/1.5, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:60/136 (inc from 53/51), Alk Phos / T
   Bili:395/6.3 ([**Month (only) 38**] from 11.5), Amylase / Lipase:46/47, Fibrinogen:438
   mg/dL, Albumin:1.7 g/dL, LDH:188 IU/L, Ca++:8.5 mg/dL, Mg++:1.5 mg/dL,
   PO4:3.8 mg/dL
   Imaging: TTE: no vegetation or valve abnormality
   Assessment and Plan
   75 yo F w/amyloidosis, ESRD on HD, recent NSTEMI w/cholangitis s/p ERCP
   with multiple stents c/b sphincterotomy bleed.  VRE bacteremia.  Severe
   hypoalbuminemia. New atrial fibrillation.
   VRE bacteremia - likely [**1-29**] GI instrumentation, also possibly due to HD
   catheter.
   Hemodynamically stable
   Started on daptomycin, but will be changed to linezolid.
   Renal service wants to treat through, but I believe HD line needs to be
   re-sited- will discuss with ID
   follow surveillance cxs daily.
   Will need TEE.
   ESRD
   HD today
   Anemia
   Continues to drop hct. No e/o overt bleeding though stools guaiac
   positive.
   If hct not stable on 4pm check, will obtain abd CT to determine source
   of bleed- procedure vs other.
   Thrombocytopenia
   No e/o DIC, not getting any heparin products (gets citrate w/HD)
   Unclear etiology: infection vs. med related (was on zosyn- d/c 1 wk
   ago, levofloxacin, which can rarely cause thrombocytopenia, was stopped
   yesterday)
   HIT Ab negative
   Other meds: pantoprazole, but plts dropped prior to that med and very
   rarely respiridone (<0.1% reported).
   Likely due to sepsis
   Afib
   Rhythm is unstable- would probably be easily corrected with Amio.
   Though she may stabilize in sinus with treatment of infection, she did
   become hypotensive when her rate was fast and will not tolerate high
   volume of boluses, so will treat with amio, though she may not require
   it long term.
   FEN
   Tolerating POs
   Cholangitis - TBili improving, will observe ALT/AST given increase
   today.  Needs rpt ERCP for stent removal in 2 mos.
   CAD
   Holding ASA, betablocker, plavix, statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: PT consult involved, rec rehab
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2185-04-22 07:41:00 Physician Resident Progress Note
Chief Complaint: 75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**])
   presented to OSH cholangitis s/p biliary stenting c/b GI bleed, VRE
   bacteremia, and new a.fib
   24 Hour Events:
 EKG - At [**2185-4-21**] 08:56 AM
 BLOOD CULTURED - At [**2185-4-21**] 11:00 AM
   - Am Hct down to 25, tx 1unit, post-tx Hct at 28.4
   - HD not done yesterday
   - Bcx from [**Date range (1) 2397**] all growing VRE
   - Stable throughout the day
   - Started on [**Hospital1 **] colace as no BM for several days, guaiac all stools
   - PM platelets 51 (54)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-4-19**] 12:30 PM
   Vancomycin - [**2185-4-19**] 01:51 PM
   Levofloxacin - [**2185-4-20**] 12:38 AM
   Daptomycin - [**2185-4-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-22**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.4
C (95.8
   HR: 83 (72 - 139) bpm
   BP: 99/49(62) {85/40(51) - 103/64(68)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 4 (2 - 9)mmHg
   Total In:
                                                                  2,048 mL
                                                                  2,076 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                  1,193 mL
                                                                     76 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                     30 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,018 mL
                                                                  2,076 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: awake, alert and oriented
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic,  right neck hematoma, MMdry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic [**2-2**]),
   regular rate and rhythm, intermittant afib on telemetry
   Peripheral Vascular: Distal pulses palpable
   Respiratory / Chest: CTAB anteriorly, decreased BS at bases
   Abdominal: Soft, hypoactive BS.  Minimally tender to palpation
   Extremities: UE pitting edema, no LE swelling
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Dry, scaly, jaundiced
   Neurologic: A+O x 3.  Moving all extremities. Pleasant
   Labs / Radiology
   51 K/uL
   9.9 g/dL
   81 mg/dL
   4.3 mg/dL
   24 mEq/L
   4.6 mEq/L
   38 mg/dL
   101 mEq/L
   133 mEq/L
   27.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2185-4-18**]  03:45 PM
                             [**2185-4-18**]  09:32 PM
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
                             [**2185-4-19**]  05:09 PM
                             [**2185-4-20**]  02:34 AM
                             [**2185-4-20**]  04:10 PM
                             [**2185-4-21**]  05:11 AM
                             [**2185-4-21**]  06:11 PM
                             [**2185-4-22**]  03:55 AM
   WBC
   13.0
   12.4
   11.0
   12.2
   12.4
   Hct
   27.1
   25.5
   28.7
   29.1
   32.7
   28.9
   30.6
   25.0
   28.4
   27.4
   Plt
   77
   57
   61
   54
   51
   51
   Cr
   4.8
   3.0
   3.8
   4.3
   Glucose
   130
   113
   86
   81
   Other labs: PT / PTT / INR:17.3/42.4/1.6, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:119/230, Alk Phos / T Bili:349/6.4,
   Amylase / Lipase:46/47, Fibrinogen:438 mg/dL, Albumin:1.7 g/dL, LDH:183
   IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**]) presented to OSH
   cholangitis s/p biliary stenting c/b GI bleed now with VRE bacteremia,
   and new a.fib
   # Bacteremia. Most likely source is GI tract from ERCP manipulation.
   Other potential sources are HD catheter, esp as accessed emergently for
   IVF and pressors.  Blood cultures growing VRE, consulted ID.
   Daptomycin started, renally dosed; Will change to Linezolid per ID.
   - Have d/c
d vanc and levaquin
   - Cultures off HD line positive before CVL positive, suspect this line
   may be seeded.  D/w renal, plan to leave in for now.  ID recommending
   resiting, though given poor HD access, renal would like to leave it
   in.
   - Will plan to get paired cultures today (one off HD line during
   dialysis and one peripherally to help determine if HD line is source to
   potentially avoid needing to remove line)
   - A-line removed yesterday
   - TTE showing no vegetations, can consider TEE though this will only
   help with determining length of treatment.  Will continue to discuss
   with ID
   -Daily surveillance cultures, continue to follow micro
   # Acute blood loss anemia: GI bleed likely at ERCP site in the setting
   of low platelets and recent restart of ASA. Has required 6 units of
   blood since admission. No blood products yesterday.  Hct this morning
   decreased from prior.  Patient has not had report of guaiac positive
   stools since admission, though has not had a BM for 48 hours.
   Concerning that there is another source of bleeding given that her HCT
   continues to fall.  No e/o hemolysis.
   - Will transfuse one unit pRBCs this morning. Check post-transfusion
   Hct. Transfuse if below 28.
   - If pm Hct does not bump appropriately, will get CT abdomen to
   evaluate for other possible source
   - Guaiac all stools
   - Keep active T&C
   - PPI PO bid
   - Hold all antiplatelet agents or anticoagulants
   - Epo with HD
   # Atrial fibrillation: Patient in paroxysmal afib as of this morning.
   Became transiently hypotensive with high rates not responsive to fluid
   bolus.  Potential causes include high grade bacteremia, hypotension,
   ischemia though this is less likely.  Patient cannot be anticoagulated
   due to ongoing bleed.
   - Will plan to PO amio load patient this morning, will keep a close eye
   on patient
s blood pressures as she has had MAPs around 55-60
   overnight.
   - As infection improves, afib may resolve, will plan to dc amio in a
   few days after she has been on appropriate antibiotics for her
   bacteremia.
   - Continue to monitor on telemetry
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment.  Repeat DIC labs
   negative.  HIT antibody negative. Possibly related to zosyn (d/c'd on
   [**4-13**]) and levoflox which can rarely cause thrombocytopenia, dc
d [**4-20**].
   Most likely due to sepsis, though may also be due to pantoprazole which
   can rarely cause this (<1%).
   - Follow platelets [**Hospital1 **] today, transfuse >50 if actively bleeding
   # Hypotension.  Initially more of a hypovolemic shock picture, however
   was confusing initially as was persistently requiring pressors despite
   adequate fluid rescusitation.  Now with known bacteremia, presume that
   septic shock is more likely predominant factor.  Now off pressors >48H
   despite persistent bacteremia. Has required two small fluid boluses
   over the last 24 hours for low BPs.
   - Continue Linezolid as above
   - Continue to monitor SBP, CVP, IVF vs. blood based on CVP/Hct
   - Caution with fluid removal with HD
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - Linezolid as above as VRE likely from GI source
   - Repeat ERCP with stent removal in 2 months
   - T. bili elevated, although trending down now over last 2 days
   - Continue to trend LFTs
   - D/w GI need for further imaging.
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker gived hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >28
   - Trended cardiac enzymes, trop elevated but stable in setting of renal
   failure
   - Repeat ECG shows resolution of changes
   # ESRD on HD
 HD today, removed 2kg UF yesterday.
   -f/u renal recs
   -EKG if K >6
   -check K after transfusions
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds, daptomycin is q48
   #Respiratory failure. Extubated, sating well on RA, resolved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-04-22 11:51:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Chief Complaint: sepsis, blood loss
   HPI:
   75 yo F w/amyloidosis, ESRD on HD, recent NSTEMI w/cholangitis s/p ERCP
   with multiple stents c/b sphincterotomy bleed.  VRE bacteremia.  Severe
   hypoalbuminemia. New atrial fibrillation.
   24 Hour Events:
 EKG - At [**2185-4-21**] 08:56 AM
 BLOOD CULTURED - At [**2185-4-21**] 11:00 AM
   Hct 25 --> 28.4 after 1 U
   No HD yesterday
   Bld cxs [**Date range (1) 2397**] VRE+
   changed from daptomycin to linezolid
   plts stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-4-19**] 12:30 PM
   Vancomycin - [**2185-4-19**] 01:51 PM
   Levofloxacin - [**2185-4-20**] 12:38 AM
   Daptomycin - [**2185-4-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH, Review of systems is unchanged from admission except as
   noted below
   Review of systems: feels well, no pain, breathing comfortable, eating
   okay
   Flowsheet Data as of  [**2185-4-22**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.6
C (96
   HR: 83 (72 - 92) bpm
   BP: 88/50(60) {85/40(51) - 104/64(68)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 6 (2 - 9)mmHg
   Total In:
                                                                  2,048 mL
                                                                  2,515 mL
   PO:
                                                                    480 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,193 mL
                                                                    115 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                     30 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,018 mL
                                                                  2,515 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: sclerae icteric
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, regular w/some
   ectopic beats
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly b/l)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, mild epigastric
   TTP, no R/G
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): fully, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.9 g/dL
   51 K/uL
   81 mg/dL
   4.3 mg/dL
   24 mEq/L
   4.6 mEq/L
   38 mg/dL
   101 mEq/L
   133 mEq/L
   27.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2185-4-18**]  03:45 PM
                             [**2185-4-18**]  09:32 PM
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
                             [**2185-4-19**]  05:09 PM
                             [**2185-4-20**]  02:34 AM
                             [**2185-4-20**]  04:10 PM
                             [**2185-4-21**]  05:11 AM
                             [**2185-4-21**]  06:11 PM
                             [**2185-4-22**]  03:55 AM
   WBC
   13.0
   12.4
   11.0
   12.2
   12.4
   Hct
   27.1
   25.5
   28.7
   29.1
   32.7
   28.9
   30.6
   25.0
   28.4
   27.4
   Plt
   77
   57
   61
   54
   51
   51
   Cr
   4.8
   3.0
   3.8
   4.3
   Glucose
   130
   113
   86
   81
   Other labs: PT / PTT / INR:17.3/42.4/1.6, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:119/230, Alk Phos / T Bili:349/6.4,
   Amylase / Lipase:46/47, Fibrinogen:438 mg/dL, Albumin:1.7 g/dL, LDH:183
   IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Microbiology: [**4-21**] bld cx NGTD
   [**Date range (1) 2397**] bld cx VRE
   Assessment and Plan
   Assessment and Plan
   75 yo F w/amyloidosis, ESRD on HD, recent NSTEMI w/cholangitis s/p ERCP
   with multiple stents c/b sphincterotomy bleed.  VRE bacteremia.  Severe
   hypoalbuminemia. New atrial fibrillation.
   #VRE bacteremia - likely [**1-29**] GI instrumentation, also possibly due to
   HD catheter, CVL (doubt). Hemodynamically stable (BP on lower side
   currently, but getting HD and asymptomatic). On linezolid, pending
   sensitivities (may change back to dapto if sensitive).  Bld cxs
   negative yesterday (=first day neg).  Renal service wants to treat
   through line if cxs remain negative, given access very difficult- plan
   would be for a 2wk course of abx once cxs definitively cleared- if bld
   cxs are again positive after antibiotics are stopped (after 2 wk
   course) need HD line re-sited. Daily surveillance cxs.  Now change CVL
   over wire and cx tip.  RUQ U/S transaminases rising and to r/o a
   persistant GI source for VRE.
   #ESRD - HD today
   #Anemia - Hct bumped appropriately to transfusion yesterday, within
   range of lab error this am. No e/o overt bleeding though stools guaiac
   positive.  Checking pm Hct- if trending down, will transfuse 1U and
   obtain abd CT to determine source of bleed- procedure vs other.
   #Thrombocytopenia - No e/o DIC (HIT Ab neg), not getting any heparin
   products (gets citrate w/HD). Unclear etiology: infection vs. med
   related (was on zosyn- d/c 1 wk ago, and levofloxacin, which can rarely
   cause thrombocytopenia- stopped several days ago, pantoprazole- but
   plts dropped prior to that med, very rarely respiridone (<0.1%
   reported).  Stable despite linezolid, follow.
   #Afib - loading w/amiodarone, now in NSR.
   #FEN - Tolerating POs
   #Cholangitis - TBili improved, will observe ALT/AST given increase.
   Needs rpt ERCP for stent removal in 2 mos.
   #CAD - Holding ASA, betablocker, plavix, statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   ------ Protected Section ------
   Pt critically ill with persistant hypotension today during dialysis,
   with SBP in low 80s. Did not require pressors. No fluid boluses.
   Total time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2185-4-22**] 17:21 ------

2185-04-23 07:33:00 Physician Resident Progress Note
Chief Complaint: 75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**])
   presented to OSH cholangitis s/p biliary stenting c/b GI bleed now with
   VRE bacteremia, and new a.fib
   24 Hour Events:
   - Fistulogram done
   - Left IJ replaced over guidewire
   - had HD in the AM
   - BP in the 80s and 90s for the most part after HD.
   - RUQ showed possible liver abscess- recommended CT to further
   evaluate.  Discussed with Rads, who wanted to hold off 1 day for
   another contrast load since she won't get dialyzed till [**Month/Year (2) **].
   Recommended doing the CT on saturday.
   -having guaiac positive stool
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-22**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Docusate PRN
   Amiodarone  (loading)
   Pantoprazole [**Hospital1 **]
   Morphine prn
   ISS
   Ondansetron prn
   Sarna prn
   Nephrocaps
   Oxycodone prn
   Bisacodyl prn
   Rosperidone
   Ca Acetate TID
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt denies pain.  No SOB.  Tolerating PO. + BM
   Flowsheet Data as of  [**2185-4-23**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 69 (68 - 102) bpm
   BP: 88/47(58) {71/39(47) - 111/57(67)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 3 (3 - 8)mmHg
   Total In:
                                                                  2,970 mL
                                                                     74 mL
   PO:
                                                                    680 mL
   TF:
   IVF:
                                                                    290 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,970 mL
                                                                     74 mL
   Respiratory support
   SpO2: 98% RA
   ABG: ///26/
   Physical Examination
   General Appearance: awake, alert and oriented
   Eyes / Conjunctiva: PERRL, sclera less icteric
   Head, Ears, Nose, Throat: Normocephalic,  right neck hematoma, MMdry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic [**2-2**]),
   regular rate and rhythm, intermittent afib on telemetry
   Peripheral Vascular: Distal pulses palpable
   Respiratory / Chest: CTAB anteriorly, decreased BS at bases
   Abdominal: Soft, hypoactive BS.  Minimally tender to palpation
   Extremities: UE pitting edema L>R, no LE swelling
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Dry, scaly, jaundice resolving
   Neurologic: A+O x 3.  Moving all extremities. Pleasant
   Labs / Radiology
   48 K/uL
   9.3 g/dL
   109 mg/dL
   3.2 mg/dL
   26 mEq/L
   3.9 mEq/L
   26 mg/dL
   103 mEq/L
   136 mEq/L
   26.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
                             [**2185-4-19**]  05:09 PM
                             [**2185-4-20**]  02:34 AM
                             [**2185-4-20**]  04:10 PM
                             [**2185-4-21**]  05:11 AM
                             [**2185-4-21**]  06:11 PM
                             [**2185-4-22**]  03:55 AM
                             [**2185-4-22**]  07:30 PM
                             [**2185-4-23**]  02:59 AM
   WBC
   13.0
   12.4
   11.0
   12.2
   12.4
   13.6
   Hct
   28.7
   29.1
   32.7
   28.9
   30.6
   25.0
   28.4
   27.4
   28.2
   26.8
   Plt
   77
   57
   61
   54
   51
   51
   48
   Cr
   4.8
   3.0
   3.8
   4.3
   3.2
   Glucose
   130
   113
   86
   81
   109
   Other labs: PT / PTT / INR:15.7/40.4/1.4, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:77/86, Alk Phos / T Bili:307/5.1,
   Amylase / Lipase:46/47, Fibrinogen:438 mg/dL, Albumin:1.7 g/dL, LDH:182
   IU/L, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Imaging: RUQ U/S [**4-22**]: IMPRESSION:
   1. Heterogeneous mass of the left lobe of the liver measuring 83 x 74 x
   77
   mm. This mass has developed in the setting of cholangitis and is most
   concerning for a liver abscess, although other differentials exist. CT
   is
   recommended.
   2. Status post biliary stenting with presence of air within the biliary
   system.
   3. Ascites is noted within the peritoneal cavity.
   4. Both kidneys are echogenic and relatively small with no evidence of
   hydronephrosis
   Microbiology: [**Date range (1) 2397**]:  VRE in blood cultures
   [**Date range (1) 2410**]: blood cultures pending
   [**4-22**] Urine cultures pending.
   Assessment and Plan
   75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**]) presented to OSH
   cholangitis s/p biliary stenting c/b GI bleed now with VRE bacteremia,
   and new a.fib
   # Bacteremia. Most likely source is GI tract from ERCP manipulation.
   Other potential sources are HD catheter, esp as accessed emergently for
   IVF and pressors.
   - appreciate ID recs. VRE sensitive to daptomycin.  Will restart today
   at endocarditis doses (6mg/kg) Q48.
   - Cultures negative x 2 days. Continue to monitor and check daily
   surveillance cultures.
   - TTE showing no vegetations, can consider TEE though this will only
   help with determining length of treatment.  Will continue to discuss
   with ID
   -discussed with renal need to change HD line when pt goes down for
   fistulogram on  [**Month/Year (2) 570**], they see no complelling need as pt has cleared
   bacteremia and as line unlikely to be source, but are not against.
   -trend CKs while on daptomycin
   -had CVL changed over wire yesterday, a-line d/c
   # Acute blood loss anemia: Pt has required total of 8 units of PRBCs, 1
   unit platelets since transfer to ICU on [**4-17**].  She had acute HCT drop
   after ERCP with nadir of 19, associated with EKG changes.  Underwent
   subsequent repeat ERCP with removal of clot from sphincter and cautery
   of bleeding. Tx requirement has trended down over past 6 days, but Hct
   does continue to trend down over time.  Report of guaiac positive
   stools this am.  Possible sources of ongoing bleed include hepatic mass
   seen on RUQ u/s and from ERCP site.
   - tx 1 unit PRBCs and 1 unit platelets today, tx goal Hct >28 and Plt
   >50 if bleeding, continue to check [**Hospital1 **] HCT
   - Guaiac all stools
   - PPI PO bid
   - Hold all antiplatelet agents or anticoagulants
   - Epo with HD
   - CT abd with contrast today to further evaluate bleeding source.
   # Atrial fibrillation: Patient in paroxysmal afib.  Potential causes
   include high grade bacteremia, hypotension, ischemia though this is
   less likely.  Patient cannot be anticoagulated due to ongoing bleed.
   - amio loading in progress. Monitor LFTs- trending down.
   - As infection improves, afib may resolve, will plan to dc amio in a
   few days after she has been on appropriate antibiotics for her
   bacteremia.  Has stayed in sinus during day today.
   - Continue to monitor on telemetry
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment.  Repeat DIC labs
   negative.  HIT antibody negative. Possibly related to zosyn (d/c'd on
   [**4-13**]) and levoflox which can rarely cause thrombocytopenia, dc
d [**4-20**].
   Most likely due to sepsis, though may also be due to pantoprazole which
   can rarely cause this (<1%).
   -   transfuse >50 if actively bleeding, will receive 1 unit today for
   plt 48 in setting of ongoing Hct drop
   -   repeat DIC labs in am
   # Hypotension.  Ddx is hypovolemia vs sepsis.  Pt fluid positive every
   day, anuric, unlikely volume deplete.  Sepsis probably more predominant
   picture in setting of bacteremia. BP more stable today, no requirement
   for boluses other than transfusion in am.
   - Continue abx as above
   - Caution with fluid removal with HD, may require CVVH if BP remains
   low.
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - Daptomycin as above as VRE likely from GI source
   - Repeat ERCP with stent removal in 2 months
   - T. bili elevated, although trending down.   Transaminases trending
   down. Were transiently elevated yesterday, got RUQ u/s which showed
   concerning left lobe liver mass.  Follow up CT abd today with contrast
   to further evaluate
   - Continue to trend LFTs
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker given hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >28
   - Repeat ECG shows resolution of changes
   # ESRD on HD
 HD planned for [**Last Name (LF) 570**], [**First Name3 (LF) **] need CVVH if BP low.
   -f/u renal recs, rec minimizing fluid, are concerned with degree of
   pt
s fluid overload.  Rec d/c KVO.
   -EKG if K >6
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds
   ICU Care
   Nutrition: renal diet
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Prophylaxis:
   DVT: boots; no hep for low plts
   Stress ulcer: ppi for GI bleed
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU for now

2185-04-23 11:15:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with CVL changed over guidewire--HD line in place
   24 Hour Events:
   RUQ U/s--liver lesion concerning for abscess and CT suggested for
   evaluation
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-22**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2185-4-23**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.2
C (95.3
   HR: 80 (68 - 102) bpm
   BP: 94/47(58) {71/39(47) - 111/57(67)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 4 (3 - 8)mmHg
   Total In:
                                                                  2,970 mL
                                                                    596 mL
   PO:
                                                                    680 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    290 mL
                                                                    109 mL
   Blood products:
                                                                    367 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,970 mL
                                                                    596 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed, Jaundice, Minimal
   Neurologic: Follows simple commands, Responds to: Voice, Movement: no
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   48 K/uL
   109 mg/dL
   3.2 mg/dL
   26 mEq/L
   3.9 mEq/L
   26 mg/dL
   103 mEq/L
   136 mEq/L
   26.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2185-4-19**]  05:03 AM
                             [**2185-4-19**]  09:59 AM
                             [**2185-4-19**]  05:09 PM
                             [**2185-4-20**]  02:34 AM
                             [**2185-4-20**]  04:10 PM
                             [**2185-4-21**]  05:11 AM
                             [**2185-4-21**]  06:11 PM
                             [**2185-4-22**]  03:55 AM
                             [**2185-4-22**]  07:30 PM
                             [**2185-4-23**]  02:59 AM
   WBC
   13.0
   12.4
   11.0
   12.2
   12.4
   13.6
   Hct
   28.7
   29.1
   32.7
   28.9
   30.6
   25.0
   28.4
   27.4
   28.2
   26.8
   Plt
   77
   57
   61
   54
   51
   51
   48
   Cr
   4.8
   3.0
   3.8
   4.3
   3.2
   Glucose
   130
   113
   86
   81
   109
   Other labs: PT / PTT / INR:15.7/40.4/1.4, CK / CKMB /
   Troponin-T:8/3/0.13, ALT / AST:77/86, Alk Phos / T Bili:307/5.1,
   Amylase / Lipase:46/47, Fibrinogen:438 mg/dL, Albumin:1.7 g/dL, LDH:182
   IU/L, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR [**4-22**]--Left sided IJ in good position , no PTX and no
   significant change seen in CXR
   Microbiology: BC--VRE [**4-18**] and [**4-20**] with no growth on [**4-21**]
   Assessment and Plan
   75 yo female with amyloidosis, CAD and ESRD presenting with
   cholangisits and now with VRE bacteremia and PAF.  She has had some
   recurrence and persistence of hypotension in past 24 hours without
   clear source to date.   Of note she has had identification of hepatic
   finding concerning for abscess at this time which will require further
   investigation.
   1)Sepsis-Likely VRE source from enteral source
   -Daptomycin to continue
   -Goal is the change HD line as soon as is possible
   -TTE negative
   -Will get CT abd to evaluate hepatic findings better and will pursue
   with relative HD stability this afternoon.
   2)Anemia
secondary to blood loss
   -Tranfusion requirement QOD
   -Goal HCT is 30 (ECG changes at 19)
   -PPI [**Hospital1 **]
   -CT Abd today for alternative reasons but will assess RP bleed
   possibility.
   3)Atrial Fibrillation-
   -Paroxysmal
   -Does likely contribute to the intermittent hypotension
   -Considering Amiodarone loading but patient is reluctant
will have to
   discuss with patient and agree on management plan.
   4)Thrombocytopenia
   -HIT negative, follow and will transfuse for <50
   -DIC negative
   5)Hypotension-
   -Is related to hypovolemia most likely
   -Could evaluate alternative sources of vasodilatory compromise
   (Cortisol, TSH) as abscess/bacteremia may be complete answer.
   -EF preserved on recent studies
   -Evidence of biliary obstruction is certainly improving
   6)ESRD-
   -HD Monday
   -Hope to move toward catheter replacement is possible after dialysis
   ICU Care
   Nutrition: NPO for study
   Glycemic Control:
   Lines: HD catheter, CVL
changed [**2185-4-22**]
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-17**] 09:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-04-24 07:49:00 Physician Resident Progress Note
Chief Complaint: 75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**])
   presented to OSH cholangitis s/p biliary stenting c/b GI bleed now with
   VRE bacteremia, and new a.fib
   24 Hour Events:
   -got platelets and 1 unit prbcs, did not bump, on recheck at 9pm had
   improved 26.8 -->27.6 --> 29.1, 48-->42 -->59
   -redosed daptomycin for endocarditis coverage
   -ID recs: close monitoring of right THR warranted in setting of
   bactermia, recommend plain films and possible ortho eval in near
   future.  Monitor CK while on daptomycin.
   -renal concerned with how fluid positive pt is, recommend having a
   lower tolerated MAP and avoiding excess fluids (i.e. d/c KVO)
   -CT abd d/w radiology attending: large bilobed exophytic mass extending
   to diaphragm and compressing spleen, evidence of 'slow venous bleed'
   without evidence for venous extravasation.  Called IR, do not feel
   intervention warranted as pt is hemodynamically stable, recommend
   elective procedure for possible biopsy on [**Month/Year (2) 570**].  Will intervene if pt
   becomes unstable or has precipitous HCT drop.
   -records faxed from OSH ([**Location (un) **]), CT abd from [**2185-3-31**] showed no evidence
   of hepatic mass.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-22**] 09:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-24**] 03:47 AM
   Other medications:
   Calcium acetate
   Risperidal
   Nephrocaps
   Na Citrate (HD)
   Pantoprazole
   Amiodarone
   Colace
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Slept well, denies abd pain, right hip pain or other
   discomfort. No trouble breathing. Mentating well.
   Flowsheet Data as of  [**2185-4-24**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 75 (72 - 103) bpm
   BP: 94/39(53) {87/38(51) - 131/84(91)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 9 (3 - 12)mmHg
   Total In:
                                                                  1,583 mL
                                                                    100 mL
   PO:
                                                                    620 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    386 mL
   Blood products:
                                                                    577 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,583 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99% RA
   ABG: ///25/
   Physical Examination
   General Appearance: awake, alert and oriented
   Eyes / Conjunctiva: PERRL, sclera less icteric
   Head, Ears, Nose, Throat: Normocephalic,  right neck hematoma, MMdry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic [**2-2**]),
   regular rate and rhythm, intermittent afib on telemetry
   Peripheral Vascular: Distal pulses palpable
   Respiratory / Chest: CTAB anteriorly, decreased BS at bases
   Abdominal: Soft, hypoactive BS.  Minimally tender to palpation
   Extremities: UE pitting edema L>R, no LE swelling
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Dry, scaly, jaundice resolving
   Neurologic: A+O x 3.  Moving all extremities. Pleasant
   Labs / Radiology
   53 K/uL
   9.5 g/dL
   141
   3.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   33 mg/dL
   100 mEq/L
   132 mEq/L
   28.1 %
   10.4 K/uL
        [image002.jpg]
                             [**2185-4-20**]  04:10 PM
                             [**2185-4-21**]  05:11 AM
                             [**2185-4-21**]  06:11 PM
                             [**2185-4-22**]  03:55 AM
                             [**2185-4-22**]  07:30 PM
                             [**2185-4-23**]  02:59 AM
                             [**2185-4-23**]  01:32 PM
                             [**2185-4-23**]  09:18 PM
                             [**2185-4-24**]  03:58 AM
                             [**2185-4-24**]  06:00 AM
   WBC
   11.0
   12.2
   12.4
   13.6
   10.4
   Hct
   30.6
   25.0
   28.4
   27.4
   28.2
   26.8
   27.6
   29.1
   28.1
   Plt
   61
   54
   51
   51
   48
   42
   59
   53
   Cr
   3.8
   4.3
   3.2
   3.6
   Glucose
   86
   81
   109
   132
   141
   Other labs: PT / PTT / INR:15.5/38.5/1.4, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:77/86, Alk Phos / T Bili:307/5.1,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:542
   mg/dL, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.7 mg/dL
   Micro: 4/21/4-23 blood cultures VRE
   [**4-21**]
 present: blood cultures no growth to date
   CT abd [**4-23**]:
   IMPRESSION:
   1. Bilobed hypervascular exophytic left hepatic lobe mass with
   perihepatic
   blood, possibly represents venous oozing, in the absence of active
   extravasation on contrast enhanced images.
   2. Bilateral atrophic kidneys with perinephric stranding.
   3. Extensive ascites, large bilateral pleural effusion and generalized
   anasarca.
   Assessment and Plan
   75F h/o amyloidosis, ESRD on HD, CAD s/p NSTEMI ([**3-5**]) presented to OSH
   cholangitis s/p biliary stenting c/b GI bleed now with VRE bacteremia,
   and new a.fib
   #Liver mass.  Impressive exophytic mass present in left lobe of liver
   with evidence of slow bleed.  Given that this mass was not noted on OSH
   CT abd report from [**2185-3-31**], more likely this is related to her recent
   cholangitis and instrumentation rather than a neoplastic process.  Ddx
   includes abscess, hematoma with loculations, biloma or a complex
   combination of the former.  Presence of hemorrhagic mass partially
   explains pt
s persistently falling Hct and transfusion requirement.
   -IR aware, willing to pursue dx procedure, code status would need to be
   temporarily reversed.  D/w pt and son.  [**Name (NI) 1204**] need for multiple
   procedures for tomorrow will tentatively plan for Tuesday.  Check coags
   and have NPO after MN on [**Name (NI) 570**] night.
   -If pt or IR feel bx not an option, more conservative measure is repeat
   CT in 1 week to eval if collection is less attenuated, more liquefied
   and amenable to percutaneous drain
   -appreciate ID input, f/u with them re broadening coverage to  include
   gram negatives and anaerobes in setting of likely abdominal abscess.
   -Call IR for embolization should be become unstable or have large HCT
   drop.
   # Bacteremia. Most likely source is GI tract from ERCP manipulation.
   Other potential sources are HD catheter, esp as accessed emergently for
   IVF and pressors.
   - appreciate ID recs. VRE sensitive to daptomycin.  Will restart today
   at endocarditis doses (6mg/kg) Q48.
   - Cultures negative x 2 days. Continue to monitor and check daily
   surveillance cultures.
   - TTE showing no vegetations, treating endocarditis dose and at this
   point will need very prolonged course of abx in setting of possible
   abscess.   Consider eval for PICC placement
   -discussed with renal need to change HD line when pt goes down for
   fistulogram on  [**Name (NI) 570**], they see no complelling need as pt has cleared
   bacteremia and as line unlikely to be source, but are not against, will
   touch base with IR and plan to change HD line over wire tomorrow
   -NPO after MN tonight for fistulogram
   -trend CKs while on daptomycin, low this am.
   # Acute blood loss anemia: Pt has required total of 8 units of PRBCs, 1
   unit platelets since transfer to ICU on [**4-17**].  She had acute HCT drop
   after ERCP with nadir of 19, associated with EKG changes.  Underwent
   subsequent repeat ERCP with removal of clot from sphincter and cautery
   of bleeding. Tx requirement has trended down over past 6 days, but Hct
   does continue to trend down over time.  Report of guaiac positive
   stools yesterday.  Possible sources of ongoing bleed include hepatic
   mass seen on CT and from ERCP site.
   - Did bump  to transfusion last night, hct and platelets stable today.
   - Guaiac all stools
   - PPI PO bid
   - Hold all antiplatelet agents or anticoagulants
   - Epo with HD
   - PM hct/platelet check
   - call IR if pt becomes unstable as above, if pt bleeds at this point
   it is likely from mass.
   # Atrial fibrillation: Patient in paroxysmal afib.  Potential causes
   include high grade bacteremia, hypotension, ischemia though this is
   less likely.  Patient cannot be anticoagulated due to ongoing bleed.
   - Responded well to amio, has been in sinus. Continue amiodarone for
   now.
   - Monitor LFTs- trending down.
   - As infection improves, afib may resolve, will plan to dc amio in a
   few days after she has been on appropriate antibiotics for her
   bacteremia.  Has stayed in sinus during day today.
   - Continue to monitor on telemetry
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment.  Repeat DIC labs
   negative x 3.  HIT antibody negative. Possibly related to zosyn (d/c'd
   on [**4-13**]) and levoflox which can rarely cause thrombocytopenia, dc
   [**4-20**].  Most likely due to sepsis/critical illness and liver mass with
   possible splenic sequestration,  though may also be due to pantoprazole
   which can rarely cause this (<1%).
   -   transfuse >50 if actively bleeding
   # Hypotension.  Ddx is hypovolemia vs sepsis.  Pt fluid positive every
   day, anuric, unlikely volume deplete.  Sepsis probably more predominant
   picture in setting of bacteremia. BP more stable today, no requirement
   for boluses other than transfusion in am.
   - Continue abx as above
   - Caution with fluid removal with HD, may require CVVH if BP remains
   low.
   - Map goal >55
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - Daptomycin as above as VRE likely from GI source, broaded coverage
   per ID recs as above
   - Repeat ERCP with stent removal in 2 months
   - T. bili elevated, although trending down.   Transaminases trending
   down. Were transiently elevated yesterday, got RUQ u/s which showed
   concerning left lobe liver mass.  Follow up CT abd today with contrast
   to further evaluate
   - Continue to trend LFTs
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker given hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >28
   - Repeat ECG shows resolution of changes
   # ESRD on HD
 HD planned for [**Last Name (LF) 570**], [**First Name3 (LF) **] need CVVH if BP low.
   -f/u renal recs, rec minimizing fluid, are concerned with degree of
   pt
s fluid overload.  Rec d/c KVO.
   -EKG if K >6
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:  not needed
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU until after HD/CVVH tomorrow and fistulogram, eval BP,
   should probably stay until after IR biopsy as may require sedation
   which has caused her to drop pressures in the past.

2185-04-24 09:52:00 Physician Attending Progress Note
Chief Complaint: VRE Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1)Daptomycin dosing adjusted
   2)Dialysis planned for tomorrow
   3)CT Abd--showing large hepatic mass with some associated hemorrhage
   and given size concern for ongoing bleeding Interventional Radiology
   consulted and aware of patient.  Recommendation is for ongoing
   monitoring and embolization acutely if bleeding acutely.
   Recommendation for further evaluation for definition of nature of
   lesion to be pursued.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-22**] 09:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-24**] 03:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2185-4-24**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.2
   HR: 73 (72 - 103) bpm
   BP: 90/39(51) {87/38(51) - 131/84(91)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 8 (3 - 12)mmHg
   Total In:
                                                                  1,583 mL
                                                                    100 mL
   PO:
                                                                    620 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    386 mL
   Blood products:
                                                                    577 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,583 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   53 K/uL
   141
   3.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   33 mg/dL
   100 mEq/L
   132 mEq/L
   28.1 %
   10.4 K/uL
        [image002.jpg]
                             [**2185-4-20**]  04:10 PM
                             [**2185-4-21**]  05:11 AM
                             [**2185-4-21**]  06:11 PM
                             [**2185-4-22**]  03:55 AM
                             [**2185-4-22**]  07:30 PM
                             [**2185-4-23**]  02:59 AM
                             [**2185-4-23**]  01:32 PM
                             [**2185-4-23**]  09:18 PM
                             [**2185-4-24**]  03:58 AM
                             [**2185-4-24**]  06:00 AM
   WBC
   11.0
   12.2
   12.4
   13.6
   10.4
   Hct
   30.6
   25.0
   28.4
   27.4
   28.2
   26.8
   27.6
   29.1
   28.1
   Plt
   61
   54
   51
   51
   48
   42
   59
   53
   Cr
   3.8
   4.3
   3.2
   3.6
   Glucose
   86
   81
   109
   132
   141
   Other labs: PT / PTT / INR:15.5/38.5/1.4, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:77/86, Alk Phos / T Bili:307/5.1,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:542
   mg/dL, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.7 mg/dL
   Imaging: CT ABD--Large mass like lesion in left lobe of liver with
   evidence of surrounding blood but no evidence of acute bleeding.
   Assessment and Plan
   75 yo female admit with cholangitis and now with course complicated by
   A-fib and evolution of VRE bactermia in the setting of ESRD.
   1)Sepsis--VRE bacteremia at this time.  Reassuring negative blood
   cultures at this time and stable blood pressure off pressors.
   -IVF bolus as needed
   -F/U cultures
   -Continue antibiotics
   -Follow exam closely for suggestion of  compromise of
hardware
 with
   hip replacement
   2)Hepatic Mass--This is unclear in source.  There is outside hosptial
   CT scan describing absence of significant liver lesions which was a
   recent scan making infectious collection, biloma, acute bleed possible
   but is not typical by CT images.  Is likely accounting for slow venous
   bleeding but again source is not clear.
   -IR consulted and they are aware for possible intervention should acute
   bleeding be seen.
   -Will consult hepatology to consider possible source and further
   evaluation
   -Will need deicision on biopsy vs. repeat imaging.
   3)End Stage Renal Disease-
   -Will minimize fluids as possible
   -Plan for dialysis tomorrow
   4)Atrial Fibrillation-
   Stabilized with [**Last Name (un) **] Rx
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines: left sided IR and right sided dialysis catheter
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2185-04-25 10:03:00 Physician Attending Progress Note
Chief Complaint: bacteremia / sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2185-4-25**] 04:40 AM
   ID and renal consults.  Overall plan was to leave current antibiotics,
   leave current line (with consideration for wire change), and pursue
   fistulogram.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-24**] 08:27 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-24**] 06:17 PM
   Other medications:
   calcium, risperdal, nephrocaps, SQI, PPI, amiodarone, colace, dapto
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-25**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 87 (75 - 104) bpm
   BP: 101/48(60) {87/34(50) - 116/81(84)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 7 (5 - 9)mmHg
   Total In:
                                                                    630 mL
                                                                    100 mL
   PO:
                                                                    580 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    630 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : scant)
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+, anasarca
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   41 K/uL
   96 mg/dL
   4.3 mg/dL
   24 mEq/L
   4.4 mEq/L
   41 mg/dL
   98 mEq/L
   129 mEq/L
   27.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2185-4-22**]  03:55 AM
                             [**2185-4-22**]  07:30 PM
                             [**2185-4-23**]  02:59 AM
                             [**2185-4-23**]  01:32 PM
                             [**2185-4-23**]  09:18 PM
                             [**2185-4-24**]  03:58 AM
                             [**2185-4-24**]  06:00 AM
                             [**2185-4-24**]  12:00 PM
                             [**2185-4-24**]  04:34 PM
                             [**2185-4-25**]  04:27 AM
   WBC
   12.4
   13.6
   10.4
   12.9
   11.7
   Hct
   27.4
   28.2
   26.8
   27.6
   29.1
   28.1
   30.0
   27.6
   Plt
   51
   48
   42
   59
   53
   53
   41
   Cr
   4.3
   3.2
   3.6
   4.3
   Glucose
   81
   109
   132
   141
   125
   96
   Other labs: PT / PTT / INR:13.6/37.9/1.2, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:31/26, Alk Phos / T Bili:230/4.1,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:542
   mg/dL, Albumin:1.6 g/dL, LDH:193 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   75-year-old woman with cholangitis (s/p multiple ERCPs), AFib, VRE
   bacteremia, and difficult venous access.
   Sepsis / VRE bacteremia
          Hemodynamically stable
          Appreciate ID and renal
s help.
          Source of VRE is presumptively biliary.  However, there is
   always the possibility of secondary seeding.
   o         TTE unremarkable
   o         Low threshold to investigate hip if either local changes or
   recurrent bacteremia.
   o         Line management is complicated given very difficult access
   issues.  Today we will:
          Check fistulogram.  If OK and tolerates HD, discuss with
   renal about d/c dialysis catheter (in place throughout episode).
          CVL was changed (by wire) with negative tip.
          If no further (+) cx today, ask IR for help transitioning to
   PICC
   Hepatic mass
   Unclear etiology.  We will get outside hospital CT scans today and ask
   radiology to compare.  This may be abscess, biloma, hematoma, or
   malignancy.  Would hold on biopsy/drainage pending comparison of old
   scans.
   ESRD
   Access issues as above.  HD per renal.
   Atrial fibrillation
   Stable at present
   ICU Care
   Nutrition: ADAT (NPO until fistulogram)
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Discussed on interdisciplinary rounds and with patient.
   Code status: DNR / DNI
   Disposition :  If tolerates fistulogram, to floor
   Total time spent: 40 min

2185-04-25 15:02:00 Physician Resident Progress Note
Chief Complaint: 75F with a PMH amyloidosis, ESRD on HD, and CAD who
   presented to an OSH with cholangitis s/p biliary stenting and ERCP x 3,
   c/b bleeding and VRE bacteremia.  Now with a new liver mass over the
   course of one month.
   24 Hour Events:
   -AV fistulogram today
   -HD today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-24**] 08:27 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-24**] 06:17 PM
   Other medications:
   Amiodarone 400mg TID
   ISS
   Nephrocaps
   Oxycodone prn
   Bowel regimen
   Risperidone 0.5 [**Hospital1 **]
   Calcium acetate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2185-4-25**] 03:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.6
   HR: 87 (79 - 104) bpm
   BP: 103/40(55) {87/34(50) - 116/59(69)} mmHg
   RR: 19 (9 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 7 (5 - 8)mmHg
   Total In:
                                                                    630 mL
                                                                    100 mL
   PO:
                                                                    580 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    630 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: BL 3+ pitting edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   41 K/uL
   9.3 g/dL
   96 mg/dL
   4.3 mg/dL
   24 mEq/L
   4.4 mEq/L
   41 mg/dL
   98 mEq/L
   129 mEq/L
   27.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2185-4-22**]  03:55 AM
                             [**2185-4-22**]  07:30 PM
                             [**2185-4-23**]  02:59 AM
                             [**2185-4-23**]  01:32 PM
                             [**2185-4-23**]  09:18 PM
                             [**2185-4-24**]  03:58 AM
                             [**2185-4-24**]  06:00 AM
                             [**2185-4-24**]  12:00 PM
                             [**2185-4-24**]  04:34 PM
                             [**2185-4-25**]  04:27 AM
   WBC
   12.4
   13.6
   10.4
   12.9
   11.7
   Hct
   27.4
   28.2
   26.8
   27.6
   29.1
   28.1
   30.0
   27.6
   Plt
   51
   48
   42
   59
   53
   53
   41
   Cr
   4.3
   3.2
   3.6
   4.3
   Glucose
   81
   109
   132
   141
   125
   96
   Other labs: PT / PTT / INR:13.6/37.9/1.2, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:31/26, Alk Phos / T Bili:230/4.1,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:542
   mg/dL, Albumin:1.6 g/dL, LDH:193 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   75F with a PMH amyloidosis, ESRD on HD, and CAD who presented to an OSH
   with cholangitis s/p biliary stenting and ERCP x3, c/b bleeding and VRE
   bacteremia.  Now with a new liver mass over the course of one month.
   #Liver mass.  Impressive exophytic mass present in left lobe of liver
   with evidence of slow bleeding.  Given that this mass was not noted on
   OSH CT abd report from [**2185-3-31**], more likely this is related to her
   recent cholangitis and instrumentation rather than a neoplastic
   process.  Ddx includes abscess, hematoma with loculations, biloma or a
   complex combination of the former.  Presence of hemorrhagic mass
   partially explains pt
s persistently falling Hct and transfusion
   requirement.
   -Will obtain OSH records from [**Location (un) 2314**] so that our radiologists can
   better characterize the liver
   -Will consider a liver biopsy if stable for a tissue diagnosis,
   however, we are hesitant to do this as we are not sure what the nature
   of the mass is.  Can consider MRI for further characterization vs.
   imaging later with another CT to assess stability
   -IR willing to embolize the mass if she becomes hemodynamically
   unstable
   -Continue abx, appreciate ID recs
   # Bacteremia. Most likely source is GI tract from ERCP manipulation.
   Other potential sources are HD catheter, esp as accessed emergently for
   IVF and pressors.   TTE showing no vegetations, blood cultures with
   NGTD from [**4-21**].  HD line has not been changes.
   - Continue daptomycin for a prolonged course, may need a very long
   course given TAH, at the very least will need endocarditis protocol.
   - Continue to monitor surveillance cultures
   - Follow up ID recs
   -discussed with renal need to change HD line when pt goes down for
   fistulogram on  [**Month/Year (2) 570**], they see no complelling need as pt has cleared
   bacteremia and as line unlikely to be source, will re-adress based on
   fisulogram.
   # Acute blood loss anemia: Pt has required total of 8 units of PRBCs, 1
   unit platelets since transfer to ICU on [**4-17**] with transfusion
   requirement decreasing.  Her HCT is stable today.  Possible sources of
   ongoing bleed include hepatic mass seen on CT and from ERCP site.
   - Guaiac all stools
   - continue PPI
   - Hold all antiplatelet agents or anticoagulants
   - Epo with HD
   - closely monitor plt/hct
   - call IR if pt becomes unstable as above, if pt bleeds at this point
   it is likely from mass.
   # Atrial fibrillation: Patient in paroxysmal afib.  Potential causes
   include high grade bacteremia, hypotension, ischemia though this is
   less likely.  Patient cannot be anticoagulated due to ongoing bleed.
   - Responded well to amio, has been in sinus. Continue amiodarone for
   now.
   - Monitor LFTs- trending down.
   - As infection improves, afib may resolve, will plan to dc amio in a
   few days after she has been on appropriate antibiotics for her
   bacteremia.  Has stayed in sinus during day today.
   - Continue to monitor on telemetry
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment.  Repeat DIC labs
   negative x 3.  HIT antibody negative. Possibly related to zosyn (d/c'd
   on [**4-13**]) and levoflox which can rarely cause thrombocytopenia, dc
   [**4-20**].  Most likely due to sepsis/critical illness and liver mass with
   possible splenic sequestration,  though may also be due to pantoprazole
   which can rarely cause this (<1%).
   -   transfuse >50 if actively bleeding
   # Hypotension.  Patient
s BP has been stable and low-normal
   - Continue abx as above
   - Caution with fluid removal with HD
   - Map goal >55
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - Daptomycin as above as VRE likely from GI source, broaded coverage
   per ID recs as above
   - Repeat ERCP with stent removal in 2 months
   - Continue to trend LFTs
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker given hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >28
   - Repeat ECG shows resolution of changes
   # ESRD on HD
 HD planned for [**Last Name (LF) 570**], [**First Name3 (LF) **] need CVVH if BP low.
   -f/u renal recs, rec minimizing fluid, are concerned with degree of
   pt
s fluid overload.  Rec d/c KVO.
   -EKG if K >6
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:  not needed
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU until after HD/CVVH tomorrow and fistulogram, eval BP,
   should probably stay until after IR biopsy as may require sedation
   which has caused her to drop pressures in the past.

2185-04-26 06:50:00 Physician Resident Progress Note
Chief Complaint:
   75F with a PMH amyloidosis, ESRD on HD, and CAD who presented to an OSH
   with cholangitis s/p biliary stenting and ERCP x3, c/b bleeding and VRE
   bacteremia.  Now with a new liver mass.
   24 Hour Events:
   - Had fistulogram that showed 3 areas of focal narrowing that were
   dilated suboptimally, but with adequate result, fistula okay to use.
   - IR will consider elective embolization of liver mass given suspicion
   for bleeding in the setting of a new HCT drop.
   - Plan for HD in the AM, unable to complete HD yesterday as the patient
   was at IR all day.
   - ID Recs: 2 week course of linezolid/dapto (until [**2185-5-4**]) if the liver
   mass is not an abscess and no e/o hip involvement, hip films ordered to
   confirm this.  Will need surveillance cultures x2 days after abx
   -Can likely pull dialysis catheter tomorrow AM as fistula okay to use.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-24**] 08:27 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Patient reporting mild SOB today
   Flowsheet Data as of  [**2185-4-26**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 84 (84 - 102) bpm
   BP: 99/42(56) {92/38(54) - 118/54(68)} mmHg
   RR: 16 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
                  Total In:
                                                                    300 mL
                                                                    225 mL
   PO:
                                                                    300 mL
                                                                    225 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    300 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Generally: Pleasant elderly female in NAD
   HEENT: NC/AT, PERRLA, EOMI, positive scleral icterus
   Cardiac: RRR, no murmurs, JVP~11cm
   LUNGS: diffuse insp. Crackles
   ABDOMEN: Mild RUQ pain to deep palpation
   SKIN: Diffuse petechiae and ecchymoses, jaundice, yellow transudative
   exudate
   EXT: Arms and legs with severe edema, leaking a yellow transudative
   exudate.
   Labs / Radiology
   Micro: Blood cultures from [**Date range (1) 2449**] all with NGTD
   Fistulogram:
   1. Venogram showing three areas of stenosis: Short stenosis in draining
   vein
   likely brachial vein, short stenosis in axillary/subclavian vein
   junction,
   long stenosis at arterial anastomosis.
   2. Successful balloon dilations of above-mentioned stenotic areas, with
   good
   angiographic and palpable results.
   44 K/uL
   8.3 g/dL
   96 mg/dL
   4.3 mg/dL
   24 mEq/L
   4.4 mEq/L
   41 mg/dL
   98 mEq/L
   129 mEq/L
   24.5 %
   11.4 K/uL
        [image002.jpg]
                             [**2185-4-22**]  07:30 PM
                             [**2185-4-23**]  02:59 AM
                             [**2185-4-23**]  01:32 PM
                             [**2185-4-23**]  09:18 PM
                             [**2185-4-24**]  03:58 AM
                             [**2185-4-24**]  06:00 AM
                             [**2185-4-24**]  12:00 PM
                             [**2185-4-24**]  04:34 PM
                             [**2185-4-25**]  04:27 AM
                             [**2185-4-26**]  05:21 AM
   WBC
   13.6
   10.4
   12.9
   11.7
   11.4
   Hct
   28.2
   26.8
   27.6
   29.1
   28.1
   30.0
   27.6
   24.5
   Plt
   48
   42
   59
   53
   53
   41
   44
   Cr
   3.2
   3.6
   4.3
   Glucose
   109
   132
   141
   125
   96
   Other labs: PT / PTT / INR:13.6/37.9/1.2, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:31/26, Alk Phos / T Bili:230/4.1,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:542
   mg/dL, Albumin:1.6 g/dL, LDH:193 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   75F with a PMH amyloidosis, ESRD on HD, and CAD who presented to an OSH
   with cholangitis s/p biliary stenting and ERCP x3, c/b bleeding and VRE
   bacteremia.  Now with a new liver mass.
   #Liver mass.  Impressive exophytic mass present in left lobe of liver
   with evidence of slow bleeding.  Given that this mass was not noted on
   OSH CT abd report from [**2185-3-31**], more likely this is related to her
   recent cholangitis and instrumentation rather than a neoplastic
   process.  Ddx includes abscess, hematoma with loculations, biloma or a
   complex combination of the former.  Presence of hemorrhagic mass
   partially explains pt
s persistently falling Hct and transfusion
   requirement.   Now with HCT drom to 24.5 from 27-28 range.
   -Will consider IR embolization given new HCT drop
   -Will obtain OSH records from [**Location (un) 2314**] so that our radiologists can
   better characterize the liver
   -Will consider a liver biopsy if stable for a tissue diagnosis,
   however, we are hesitant to do this as we are not sure what the nature
   of the mass is.  Can consider MRI for further characterization vs.
   imaging later with another CT to assess stability-
    -Continue abx, appreciate ID recs
   # Bacteremia. Enterococcus Fecium.  Most likely source is GI tract from
   ERCP manipulation.  Other potential sources are HD catheter, esp as
   accessed emergently for IVF and pressors.   TTE showing no vegetations,
   surveillance blood cultures with NGTD from [**4-21**].  HD line has not been
   changed.
   - Continue daptomycin and linezolid for a two week course until [**2185-5-4**]
   if this is not an abscess and there is no hip involvement.
   -Hip films today to assess for involvement
   - Continue to monitor surveillance cultures until two days post
   completion of abx
   - Follow up ID recs
   -Will pull dialysis catheter given successful dilation of fistula
   # Acute blood loss anemia: Pt has required total of 8 units of PRBCs, 1
   unit platelets since transfer to ICU on [**4-17**] with transfusion
   requirement decreasing.  Her HCT dropped today.  Possible sources of
   ongoing bleed include hepatic mass seen on CT and from ERCP site.
   -Consider IR embolization of hepatic mass today
   - Guaiac all stools
   - continue PPI
   - Hold all antiplatelet agents or anticoagulants
   - Epo with HD
   - closely monitor plt/hct
   # Atrial fibrillation: Patient in paroxysmal afib.  Potential causes
   include high grade bacteremia, hypotension, ischemia though this is
   less likely.  Patient cannot be anticoagulated due to ongoing bleed.
   - Responded well to amio, has been in sinus. Continue amiodarone for
   now.
   - Monitor LFTs- trending down.
   - As infection improves, afib may resolve, will plan to dc amio in a
   few days after she has been on appropriate antibiotics for her
   bacteremia.  Has stayed in sinus during day today.
   - Continue to monitor on telemetry
   # Thrombocytopenia: Concern for DIC initially in setting of
   cholangitis, but has persisted after treatment.  Repeat DIC labs
   negative x 3.  HIT antibody negative. Possibly related to zosyn (d/c'd
   on [**4-13**]) and levoflox which can rarely cause thrombocytopenia, dc
   [**4-20**].  Most likely due to sepsis/critical illness and liver mass with
   possible splenic sequestration,  though may also be due to pantoprazole
   which can rarely cause this (<1%).
   -   transfuse >50 if actively bleeding
   # Hypotension.  Patient
s BP has been stable and low-normal
   - Continue abx as above
   - Caution with fluid removal with HD
   - Map goal >55
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].
   - Daptomycin and linezolid as above as VRE likely from GI source,
   broaded coverage per ID recs as above
   - Repeat ERCP with stent removal in 2 months
   - Continue to trend LFTs
   # CAD s/p recent NSTEMI and ?stent: ECG with ischemic changes in
   setting of hypotension due to GI bleeding. Likely demand event due to
   acute blood loss rather than unstable plaque.
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker given hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >28
   - Repeat ECG shows resolution of changes
   # ESRD on HD
   -HD today.
   -EKG if K >6
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-04-26 11:39:00 Physician Attending Progress Note
Chief Complaint: VRE bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo F w/ESRD [**1-29**] amyloidosis on HD a/w cholangitis s/p multiple ERCPs
   c/b bleeding at sphincterotomy site resulting in blood loss anemia,
   hypovolemic shock, and demand ischemia.  Course further c/b VRE
   bacteremia, new afib, thrombocytopenia, and finding of a large liver
   mass.
   24 Hour Events:
   Fistulogram showed 3 areas of focal narrowing, s/p successful balloon
   dilation. AVF now reportedly ok for use.
   Hct drop from 28 --> 24, only one small medium black stool
   HD today
   ID rec 2wk course of daptomycin and linezolid (if liver mass is not an
   abscess and hip not involved)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-24**] 08:27 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-4-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-26**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 100 (84 - 102) bpm
   BP: 111/52(67) {92/38(54) - 120/68(80)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
                  Total In:
                                                                    300 mL
                                                                    465 mL
   PO:
                                                                    300 mL
                                                                    465 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    300 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Eyes / Conjunctiva: sclerae icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, 2+ UE edema
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   44 K/uL
   86 mg/dL
   4.9 mg/dL
   25 mEq/L
   5.1 mEq/L
   51 mg/dL
   100 mEq/L
   132 mEq/L
   24.5 %
   11.4 K/uL
        [image002.jpg]
                             [**2185-4-22**]  07:30 PM
                             [**2185-4-23**]  02:59 AM
                             [**2185-4-23**]  01:32 PM
                             [**2185-4-23**]  09:18 PM
                             [**2185-4-24**]  03:58 AM
                             [**2185-4-24**]  06:00 AM
                             [**2185-4-24**]  12:00 PM
                             [**2185-4-24**]  04:34 PM
                             [**2185-4-25**]  04:27 AM
                             [**2185-4-26**]  05:21 AM
   WBC
   13.6
   10.4
   12.9
   11.7
   11.4
   Hct
   28.2
   26.8
   27.6
   29.1
   28.1
   30.0
   27.6
   24.5
   Plt
   48
   42
   59
   53
   53
   41
   44
   Cr
   3.2
   3.6
   4.3
   4.9
   Glucose
   109
   132
   141
   125
   96
   86
   Other labs: PT / PTT / INR:14.1/40.4/1.2, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:23/26, Alk Phos / T Bili:205/3.7,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:542
   mg/dL, Albumin:1.7 g/dL, LDH:193 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.1 mg/dL
   Microbiology: Bld cxs negative since [**4-21**]
   Assessment and Plan
   75-year-old woman with cholangitis (s/p multiple ERCPs c/b bleeding),
   AFib, VRE bacteremia, and difficult venous access on a background of
   ESRD due to amyloidosis.  Many of her acute issues have improved, but
   we are evaluating a marked CT abnormality of her liver.
   Hepatic mass
   Unclear etiology.  We will try to get outside hospital CT scans; report
   suggests finding was not there previously.
   Consult hepatology for guidance regarding drainage, sampling, further
   eval (e.g. MRI), etc.
   Sepsis / VRE bacteremia
          Hemodynamically stable
          Appreciate ID and renal
s help.
          Source of VRE is presumptively biliary.  However, there is
   always the possibility of secondary seeding.
   o         TTE unremarkable
   o         Check hip films. Low threshold to investigate hip further if
   either local changes or recurrent bacteremia.
   o         Line management is complicated given very difficult access
   issues.
          Try fistula when OK with renal; If OK and tolerates, discuss
   with renal about d/c dialysis catheter (in place throughout episode).
          CVL was changed (by wire) with negative tip.
          consider PICC if cx remain negative
   ESRD
   Access issues as above.  HD per renal.
   Atrial fibrillation
   Stable at present on amiodarone, now in sinus.
   Thrombocytopenia
   unclear [**Name2 (NI) **] ([**Name (NI) 2452**] neg, no e/o DIC, potential culprit meds d/c
   several days ago, ?splenic sequestration in setting of liver mass),
   plts stable.
   ICU Care
   Nutrition: oral diet
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT:  p-boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : to floor

2185-04-27 07:02:00 Physician Resident Progress Note
Chief Complaint: Liver Mass, GI bleed, and VRE bacteremia
   24 Hour Events:
   -Four episodes of melanotic stool overnight.  HCT was monitored and
   dropped from 28 to 24.  We transfused one unit of pRBC's over four
   hours
   -Renal is recommending pulling her HD line out by IR guidance on [**4-27**]
   if she tolerates ultrafiltration by her AV fistula
   -[**Location (un) 2314**] has sent OSH records, they are in the chart.  MRI is on hold
   for now as it will be minimally beneficial per discussion with
   radiology, and the patient is unable to tolerate lying flat for the
   study.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-26**] 03:53 PM
   Linezolid - [**2185-4-26**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-4-26**] 08:00 AM
   Other medications:
   Amiodarone 400mg TID
   Panotprazole 40mg [**Hospital1 **]
   Morphine prn pain
   ISS
   Nephrocaps
   Calcium acetate
   Risperdone 0.5mg [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: SOB is improving
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2185-4-27**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 94 (89 - 119) bpm
   BP: 91/37(50) {83/34(48) - 122/81(88)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 6 (2 - 6)mmHg
   Total In:
                                                                    915 mL
                                                                    375 mL
   PO:
                                                                    865 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,085 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Jaundiced, edematous, leaking transudative fluid
   from her skin
   Eyes / Conjunctiva: PERRL, Scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   ), Fine rales bilaterally increasing at the bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Bilateral 3+ pitting edema
   Skin:  Warm, Jaundice, Transudative leakage
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, No asterixis
   Labs / Radiology
   45 K/uL
   9.9 g/dL
   102 mg/dL
   3.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   31 mg/dL
   102 mEq/L
   136 mEq/L
   27.4 %
   13.2 K/uL
        [image002.jpg]
                             [**2185-4-23**]  09:18 PM
                             [**2185-4-24**]  03:58 AM
                             [**2185-4-24**]  06:00 AM
                             [**2185-4-24**]  12:00 PM
                             [**2185-4-24**]  04:34 PM
                             [**2185-4-25**]  04:27 AM
                             [**2185-4-26**]  05:21 AM
                             [**2185-4-26**]  02:10 PM
                             [**2185-4-26**]  09:12 PM
                             [**2185-4-27**]  04:50 AM
   WBC
   10.4
   12.9
   11.7
   11.4
   12.9
   13.2
   Hct
   29.1
   28.1
   30.0
   27.6
   24.5
   28.8
   24.7
   27.4
   Plt
   59
   53
   53
   41
   44
   54
   45
   Cr
   3.6
   4.3
   4.9
   3.5
   Glucose
   132
   141
   125
   96
   86
   102
   Other labs: PT / PTT / INR:14.6/40.6/1.3, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:22/25, Alk Phos / T Bili:200/3.7,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:542
   mg/dL, Albumin:1.8 g/dL, LDH:209 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.8 mg/dL
   MICRO:
   Blood cultures from [**Date range (1) 2464**] with NGTD
   Assessment and Plan
   75F with a PMH amyloidosis, ESRD on HD, and CAD who presented to an OSH
   with cholangitis s/p biliary stenting and ERCP x3, c/b bleeding and VRE
   bacteremia.  Now with a new liver mass.
   # GI bleeding: Has had melanotic stool persistently over the last 24
   hours.  Likely related to low platelets.  HCT dropped from 28 to 24
   yesterday with this.  She is s/p blood transfusion and HCT has
   responded appropriately
   -Q8H HCT monitoring
   -Will transfuse one unit of platelets
   -Will d/c linezolid per ID recs: likely contributing to
   thrombocytopenia
   -Holding anticoagulants
   #Liver mass.  Impressive exophytic mass present in left lobe of liver
   with evidence of slow bleeding.  Given that this mass was not noted on
   OSH CT abd report from [**2185-3-31**], more likely this is related to her
   recent cholangitis and instrumentation rather than a neoplastic
   process.
   -Radiology and GI to review OSH records, in the chart
   -Will consider a liver biopsy if the lesion seems stable for this
   procedure
    -Continue abx, appreciate ID recs
   # Bacteremia. VRE bacteremia.  Most likely source is GI tract from ERCP
   manipulation.  Other potential sources are HD catheter, esp as accessed
   emergently for IVF and pressors.   TTE showing no vegetations,
   surveillance blood cultures with NGTD from [**4-21**].  HD line has not been
   changed.  Hip films are not optimal for evaluation of TAH
   - Continue daptomycin per ID recs
   - Continue to monitor surveillance cultures until two days post
   completion of abx
   - Follow up ID recs
   -Will pull dialysis catheter  if she tolerates ultrafiltration via AV
   fistula
   # Atrial fibrillation: Patient in paroxysmal afib.  Potential causes
   include high grade bacteremia, hypotension, ischemia though this is
   less likely.  Patient cannot be anticoagulated due to ongoing bleed.
   - Responded well to amio, has been in sinus. Continue amiodarone for
   now, consider d/cing amio as infection improves
   - Monitor LFTs
   - Continue to monitor on telemetry
   # Thrombocytopenia:  DIC labs negative, HIT ab negative.  Possibly due
   to a medication effect (patient has been on zosyn, levofloxacin,
   linezolid and pantoprazole- all of which rarely cause thrombocytopenia)
   vs. splenic sequestration in the setting of a liver mass.
   -will transfuse today in the setting of platelets <50 and melena
   -discontinuing linezolid
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].  Now complicated by VRE bacteremia
   - Daptomycin as above as VRE per ID recs
   - Repeat ERCP with stent removal in 2 months
   - Continue to trend LFTs
   # CAD s/p recent NSTEMI and ?stent:
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker given hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >28
   - Repeat ECG shows resolution of changes
   # ESRD on HD
   -ultrafiltration today.
   -EKG if K >6
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds
   ICU Care
   Nutrition:
   Comments: Renal diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-04-27 10:04:00 Physician Attending Progress Note
Chief Complaint: melena
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   4 episodes melena last night
   Tx 1 U PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2185-4-26**] 03:53 PM
   Linezolid - [**2185-4-26**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: melena
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2185-4-27**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 93 (90 - 119) bpm
   BP: 108/50(63) {83/34(48) - 122/81(88)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 6 (2 - 6)mmHg
   Total In:
                                                                    915 mL
                                                                    375 mL
   PO:
                                                                    865 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,085 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed, petechiae
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   45 K/uL
   102 mg/dL
   3.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   31 mg/dL
   102 mEq/L
   136 mEq/L
   27.4 %
   13.2 K/uL
        [image002.jpg]
                             [**2185-4-23**]  09:18 PM
                             [**2185-4-24**]  03:58 AM
                             [**2185-4-24**]  06:00 AM
                             [**2185-4-24**]  12:00 PM
                             [**2185-4-24**]  04:34 PM
                             [**2185-4-25**]  04:27 AM
                             [**2185-4-26**]  05:21 AM
                             [**2185-4-26**]  02:10 PM
                             [**2185-4-26**]  09:12 PM
                             [**2185-4-27**]  04:50 AM
   WBC
   10.4
   12.9
   11.7
   11.4
   12.9
   13.2
   Hct
   29.1
   28.1
   30.0
   27.6
   24.5
   28.8
   24.7
   27.4
   Plt
   59
   53
   53
   41
   44
   54
   45
   Cr
   3.6
   4.3
   4.9
   3.5
   Glucose
   132
   141
   125
   96
   86
   102
   Other labs: PT / PTT / INR:14.6/40.6/1.3, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:22/25, Alk Phos / T Bili:200/3.7,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:542
   mg/dL, Albumin:1.8 g/dL, LDH:209 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   75-year-old woman with cholangitis (s/p multiple ERCPs c/b bleeding),
   AFib, VRE bacteremia, and difficult venous access on a background of
   ESRD due to amyloidosis.  Many of her acute issues have improved, but
   we are evaluating a marked CT abnormality of her liver.
   Melena:  8 episodes yesterday with HCT drop, BPs holding but unable to
   tolerate UF today. Will give another unit of PRBC and 1 bag platelets -
   Hepatic mass: Unclear etiology.  Obtained OSH outside hospital CT
   scans; report suggests finding was not there previously.
   Consulted hepatology for guidance regarding drainage, sampling, further
   eval (e.g. MRI), etc.
   Sepsis / VRE bacteremia: Source of VRE is presumptively biliary.
   However, there is always the possibility of secondary seeding.
   o         TTE unremarkable
   o         Line management is complicated given very difficult access
   issues.
          Try fistula when OK with renal; If OK and tolerates, discuss
   with renal about d/c dialysis catheter (in place throughout episode).
          CVL was changed (by wire) with negative tip.
          consider PICC if cx remain negative
   ESRD : Access issues as above.  HD per renal today had goal 2L neg but
   with blood loss
   Atrial fibrillation : Stable at present on amiodarone, now in sinus.
   Thrombocytopenia : unclear [**Name2 (NI) **] ([**Name (NI) 2452**] neg, no e/o DIC, potential
   culprit meds d/c
d several days ago, ?splenic sequestration in setting
   of liver mass), plts stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2185-04-28 07:42:00 Physician Resident Progress Note
Chief Complaint: 75F with cholangitis s/p ERCP x3 now with resolving
   VRE bacteremia, GI bleed, and a new liver mass
   24 Hour Events:
 CALLED OUT
   -2 melanotic stool overnight.  HCT was stable at 28, no transfusion was
   given
   -Renal is recommending pulling her HD line out by IR guidance on [**4-28**] if
   she tolerates ultrafiltration by her AV fistula
   -Images are being loaded onto system, initial prelim read is this is
   malignancy which may not be changed much from prior
   -DIC labs were sent and were unremarkable, smear did not show
   schistocytes
   -received extra dose daptomycin since she had received the dose prior
   to HD
   -continues to be refractory to platelets
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2185-4-26**] 08:00 PM
   Daptomycin - [**2185-4-27**] 05:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Amiodarone 200mg daily
   Dapto 450mg IV q48H
   Morphine prn pain
   Heparin SC
   Nephrocaps
   Famotidine
   Risperidone
   Calcium acetate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No(t) Epistaxis, No mucosal bleeding
   Gastrointestinal: Abdominal pain, mild RUQ pain
   Integumentary (skin): Jaundice, Rash
   Flowsheet Data as of  [**2185-4-28**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 102 (87 - 117) bpm
   BP: 109/52(68) {88/46(57) - 152/78(124)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 5 (3 - 8)mmHg
   Total In:
                                                                  2,059 mL
                                                                    100 mL
   PO:
                                                                    660 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                  1,349 mL
   Total out:
                                                                  1,700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    359 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   9.7 g/dL
   84 mg/dL
   3.8 mg/dL
   26 mEq/L
   4.5 mEq/L
   37 mg/dL
   103 mEq/L
   137 mEq/L
   28.2 %
   14.4 K/uL
        [image002.jpg]
                             [**2185-4-25**]  04:27 AM
                             [**2185-4-26**]  05:21 AM
                             [**2185-4-26**]  02:10 PM
                             [**2185-4-26**]  09:12 PM
                             [**2185-4-27**]  04:50 AM
                             [**2185-4-27**]  12:24 PM
                             [**2185-4-27**]  05:32 PM
                             [**2185-4-27**]  06:40 PM
                             [**2185-4-27**]  11:58 PM
                             [**2185-4-28**]  05:59 AM
   WBC
   11.7
   11.4
   12.9
   13.2
   16.0
   14.4
   14.5
   14.4
   Hct
   27.6
   24.5
   28.8
   24.7
   27.4
   28.8
   29.8
   28.4
   27.5
   28.2
   Plt
   41
   44
   54
   45
   42
   47
   47
   44
   47
   Cr
   4.3
   4.9
   3.5
   3.8
   Glucose
   96
   86
   102
   84
   Other labs: PT / PTT / INR:13.9/38.0/1.2, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:26/48, Alk Phos / T Bili:252/6.0,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:1.0 %,
   Lymph:6.0 %, Mono:7.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:526
   mg/dL, Albumin:2.0 g/dL, LDH:236 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Micro:
   [**4-21**] blood cultures negative
   [**Date range (1) 2485**] with NGTD
   Assessment and Plan
   75F with a PMH amyloidosis, ESRD on HD, and CAD who presented to an OSH
   with cholangitis s/p biliary stenting and ERCP x3, c/b bleeding and VRE
   bacteremia.  Now with a new liver mass and GI bleed.
   # GI bleeding: Has had melanotic stool persistently over the last 48
   hours, overall decreasing in frequency.  Likely related to low
   platelets.  HCT dropped from 28 to 24 on [**4-27**] with this.  She is s/p
   blood and platelet transfusion on [**4-27**] and HCT is stable at 28,
   although her platelets are no responding.
   -Q12H HCT monitoring, transfusion goal >28
   -Holding anticoagulants
   -[**Month (only) 60**] need endoscopy and colonoscopy to evaluate
   #Liver mass.  Impressive exophytic mass present in left lobe of liver
   with evidence of slow bleeding.  It appears that this mass was also on
   [**3-31**] imaging from OSH, which increases our suspicion for malignancy.
   -Radiology and GI to review OSH records in detail
   -Will consider a liver biopsy if the lesion seems stable for this
   procedure
   -Appreciate GI recs
   # Bacteremia. VRE bacteremia.  Most likely source is GI tract from ERCP
   manipulation.  Other potential sources are HD catheter, esp as accessed
   emergently for IVF and pressors.   TTE showing no vegetations,
   surveillance blood cultures negative on [**4-21**] and NGTD [**Date range (1) 2485**].  HD
   line has not been changed.  Hip films are not optimal for evaluation of
   TAH
   - Continue daptomycin per ID recs
   - Follow up ID recs
   -Will pull dialysis catheter  if she tolerates ultrafiltration via AV
   fistula
   # Thrombocytopenia:  DIC labs negative, HIT ab negative.   She has ESRD
   and was septic, therefore her platelets are dysfunctional, and she may
   not respond in a predictable way to transfusion as her platelet count
   is not a complete reflection of her hemostatic capability.   Her melena
   has decreased in frequency which is reassuring.
   -Will transfuse for active bleeding,
   -consider DDAVP
   # Atrial fibrillation: Patient in paroxysmal afib.  Potential causes
   include high grade bacteremia, hypotension, ischemia though this is
   less likely.  Patient cannot be anticoagulated due to ongoing bleed.
   - Responded well to amio, has been in sinus. Continue amiodarone for
   now, consider d/cing amio as infection improves
   - Monitor LFTs
   - Continue to monitor on telemetry
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].  Now complicated by VRE bacteremia
   - Daptomycin as above as VRE per ID recs
   - Repeat ERCP with stent removal in 2 months
   - Continue to trend LFTs
   # CAD s/p recent NSTEMI and ?stent:
   - Hold ASA and plavix given bleeding
   - Hold beta-blocker given hypotension
   - Hold statin given LFT abnormalities
   - No anticoagulants given bleeding
   - Treat anemia per above, hct >28
   - Repeat ECG shows resolution of changes
   # ESRD on HD
   -ultrafiltration today.
   -EKG if K >6
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds
   ICU Care
   Nutrition:
   Comments: Renal diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2185-04-28 10:34:00 Physician Attending Progress Note
Chief Complaint: GI bleed,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
    2 epsiodes of melena, hemodynamically stable, no further transfusion
   Prelim report suggest mass on
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2185-4-26**] 08:00 PM
   Daptomycin - [**2185-4-27**] 05:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-28**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 93 (87 - 117) bpm
   BP: 110/56(68) {88/46(57) - 152/78(124)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 5 (3 - 8)mmHg
   Total In:
                                                                  2,059 mL
                                                                    250 mL
   PO:
                                                                    660 mL
                                                                    250 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                  1,349 mL
   Total out:
                                                                  1,700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    359 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   47 K/uL
   84 mg/dL
   3.8 mg/dL
   26 mEq/L
   4.5 mEq/L
   37 mg/dL
   103 mEq/L
   137 mEq/L
   28.2 %
   14.4 K/uL
        [image002.jpg]
                             [**2185-4-25**]  04:27 AM
                             [**2185-4-26**]  05:21 AM
                             [**2185-4-26**]  02:10 PM
                             [**2185-4-26**]  09:12 PM
                             [**2185-4-27**]  04:50 AM
                             [**2185-4-27**]  12:24 PM
                             [**2185-4-27**]  05:32 PM
                             [**2185-4-27**]  06:40 PM
                             [**2185-4-27**]  11:58 PM
                             [**2185-4-28**]  05:59 AM
   WBC
   11.7
   11.4
   12.9
   13.2
   16.0
   14.4
   14.5
   14.4
   Hct
   27.6
   24.5
   28.8
   24.7
   27.4
   28.8
   29.8
   28.4
   27.5
   28.2
   Plt
   41
   44
   54
   45
   42
   47
   47
   44
   47
   Cr
   4.3
   4.9
   3.5
   3.8
   Glucose
   96
   86
   102
   84
   Other labs: PT / PTT / INR:13.9/38.0/1.2, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:26/48, Alk Phos / T Bili:252/6.0,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:1.0 %,
   Lymph:6.0 %, Mono:7.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:526
   mg/dL, Albumin:2.0 g/dL, LDH:236 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Microbiology: [**4-22**] negatve
   [**4-23**] on NGTD
   Assessment and Plan
   75-year-old woman with cholangitis (s/p multiple ERCPs c/b bleeding),
   AFib, VRE bacteremia, and difficult venous access on a background of
   ESRD due to amyloidosis.  Many of her acute issues have improved, but
   we are evaluating a marked CT abnormality of her liver.
   Thrombocytopenia: DIC and HIT labs negative, question of consumption
   with GI bleed yesterday and possible splenic sequestration in setting
   of liver mass), plts stable since yesterday
   Melena:  2 episodes today with stable HCT, [**Hospital1 **] HCT, Hepatology to see
   this AM re role of scope
   Hepatic mass: Unclear etiology.  Obtained OSH outside hospital CT
   scans; report suggests finding was there previously but need to be
   reviewed.Consulted hepatology for guidance regarding drainage,
   sampling, further eval (e.g. MRI), etc.
   Sepsis / VRE bacteremia: Source of VRE is presumptively biliary.
   However, there is always the possibility of secondary seeding.
   o         TTE unremarkable
   o         Line management is complicated given very difficult access
   issues but if  fistula functioning, discuss with renal about d/c
   dialysis catheter today
              CVL was changed (by wire) with negative tip.
          consider PICC if cx remain negative
   CAD: s/p stent on [**2185-3-15**] - clarify id bare mental versus drug eleuting
   and may need to restart Plavix
   ESRD : Access issues as above.  HD per renal tommorow
   Atrial fibrillation : Stable at present on amiodarone, now in sinus.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2185-04-29 07:34:00 Physician Resident Progress Note
Chief Complaint: 75F with cholangitis s/p ERCP x3, c/b VRE bacteremia,
   now with GI bleeding and a new liver mass.
   24 Hour Events:
   - Liver will biopsy when more stable - not GI Bleeding.
   - PM Hct stable
   - Added on AFP, CA19-9
   - IR to pull line Friday.
   - Spoke with family and updated on plan.
   - Called out.
   - Overnight tachycardic s/p HD, repeat Hct stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2185-4-26**] 08:00 PM
   Daptomycin - [**2185-4-27**] 05:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No(t) Epistaxis, no mucosal bleeding
   Cardiovascular: No(t) Palpitations, No dizziness
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain
   Integumentary (skin): Jaundice, Rash
   Flowsheet Data as of  [**2185-4-29**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 104 (91 - 118) bpm
   BP: 112/57(70) {90/47(56) - 134/71(86)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 65 kg
   Height: 64 Inch
                  Total In:
                                                                    910 mL
                                                                    210 mL
   PO:
                                                                    910 mL
                                                                    210 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    710 mL
                                                                    210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Jaundiced, volume overloaded
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (Murmur: Systolic), Systolic murmur radiating to the
   axilla
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally worse at the bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: Petechial rash with ecchymoses, Jaundice, Bullae
   present bilaterally on upper extremities
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   51 K/uL
   9.3 g/dL
   91 mg/dL
   2.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   25 mg/dL
   106 mEq/L
   142 mEq/L
   27.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2185-4-26**]  09:12 PM
                             [**2185-4-27**]  04:50 AM
                             [**2185-4-27**]  12:24 PM
                             [**2185-4-27**]  05:32 PM
                             [**2185-4-27**]  06:40 PM
                             [**2185-4-27**]  11:58 PM
                             [**2185-4-28**]  05:59 AM
                             [**2185-4-28**]  03:48 PM
                             [**2185-4-28**]  09:56 PM
                             [**2185-4-29**]  04:28 AM
   WBC
   13.2
   16.0
   14.4
   14.5
   14.4
   13.8
   13.3
   Hct
   24.7
   27.4
   28.8
   29.8
   28.4
   27.5
   28.2
   27.9
   29.6
   27.4
   Plt
   45
   42
   47
   47
   44
   47
   58
   51
   Cr
   3.5
   3.8
   2.7
   Glucose
   102
   84
   91
   Other labs: PT / PTT / INR:13.9/38.0/1.2, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:24/39, Alk Phos / T Bili:234/4.6,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:1.0 %,
   Lymph:6.0 %, Mono:7.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:526
   mg/dL, Albumin:1.9 g/dL, LDH:250 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Microbiology: Blood cultures [**Date range (1) 2497**] Negative
   Blood cutlures [**Date range (1) 2498**] NGTD
   Assessment and Plan
   75F with a PMH amyloidosis, ESRD on HD, and CAD who presented to an OSH
   with cholangitis s/p biliary stenting and ERCP x3, c/b bleeding and VRE
   bacteremia.  Now with a new liver mass and GI bleed.
   # GI bleeding: Has had melanotic stool persistently over the last 48
   hours, overall decreasing in frequency.  Likely related to low
   platelets.  HCT dropped from 28 to 24 on [**4-27**] with this.  She is s/p
   blood and platelet transfusion on [**4-27**] and HCT is stable at 28.
   -Q12H HCT monitoring, transfusion goal >[**5-25**] need endoscopy and colonoscopy to evaluate
   #Liver mass.  Impressive exophytic mass present in left lobe of liver
   with evidence of slow bleeding.  It appears that this mass was also on
   [**3-31**] imaging from OSH, which increases our suspicion for malignancy.
   -Hepatology to perform liver biopsy when GI bleed is stopped
   -Appreciate GI recs
   # Bacteremia. VRE bacteremia.  Most likely source is GI tract from ERCP
   manipulation.  Other potential sources are HD catheter, esp as accessed
   emergently for IVF and pressors.   TTE showing no vegetations,
   surveillance blood cultures negative on [**5-7**] and NGTD [**Date range (1) 2498**].
   HD line has not been changed.  Hip films are not optimal for evaluation
   of TAH
   - Continue daptomycin per ID recs
   - Follow up ID recs
   -Will pull dialysis catheter today
   # Thrombocytopenia:  DIC labs negative, HIT ab negative.   She has ESRD
   and was septic, therefore her platelets are dysfunctional, and she may
   not respond in a predictable way to transfusion as her platelet count
   is not a complete reflection of her hemostatic capability.   Her melena
   has decreased in frequency which is reassuring.
   -Will transfuse for active bleeding,
   -consider DDAVP if it becomes recalcitrant
   # Atrial fibrillation: Patient in paroxysmal afib.  Potential causes
   include high grade bacteremia, hypotension, ischemia though this is
   less likely.  Patient cannot be anticoagulated due to ongoing bleed.
   - Responded well to amio, has been in sinus. Continue amiodarone for
   now, consider d/cing amio as infection improves
   - Monitor LFTs
   - Continue to monitor on telemetry
   # Cholangitis, biliary obstruction: s/p ERCP x3 with placement of CBD
   stent x2. Stones removed on prior study. Completed 7 day course zosyn
   on [**4-13**].  Now complicated by VRE bacteremia
   - Daptomycin as above as VRE per ID recs
   - Repeat ERCP with stent removal in 2 months
   - Continue to trend LFTs
   # CAD s/p recent NSTEMI in [**9-/2184**], and has presumably completed 3
   months of ASA/plavix:
   -restarted ASA/ plavix as her bleed has improved
   - Hold beta-blocker given hypotension
   - Hold statin given LFT abnormalities
   # ESRD on HD
   -continue HD per protocol
   -continue nephrocaps, calcium acetate, getting epo and zemplar with HD
   -renally dose meds
   -appreciate renal recs
   ICU Care
   Nutrition:
   Comments: NPO for line removal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2185-04-29 11:15:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1 episode of melena
   Hepatology will plan for Bx when GI bleed stable
   Bare metal stent in [**10-5**]
 discussions re
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2185-4-26**] 08:00 PM
   Daptomycin - [**2185-4-27**] 05:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia, thrombocytopenia
   Flowsheet Data as of  [**2185-4-29**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 96 (91 - 118) bpm
   BP: 96/41(54) {89/41(53) - 134/71(86)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 65 kg
   Height: 64 Inch
                  Total In:
                                                                    910 mL
                                                                    210 mL
   PO:
                                                                    910 mL
                                                                    210 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    710 mL
                                                                    210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Labs / Radiology
   9.3 g/dL
   51 K/uL
   91 mg/dL
   2.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   25 mg/dL
   106 mEq/L
   142 mEq/L
   27.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2185-4-26**]  09:12 PM
                             [**2185-4-27**]  04:50 AM
                             [**2185-4-27**]  12:24 PM
                             [**2185-4-27**]  05:32 PM
                             [**2185-4-27**]  06:40 PM
                             [**2185-4-27**]  11:58 PM
                             [**2185-4-28**]  05:59 AM
                             [**2185-4-28**]  03:48 PM
                             [**2185-4-28**]  09:56 PM
                             [**2185-4-29**]  04:28 AM
   WBC
   13.2
   16.0
   14.4
   14.5
   14.4
   13.8
   13.3
   Hct
   24.7
   27.4
   28.8
   29.8
   28.4
   27.5
   28.2
   27.9
   29.6
   27.4
   Plt
   45
   42
   47
   47
   44
   47
   58
   51
   Cr
   3.5
   3.8
   2.7
   Glucose
   102
   84
   91
   Other labs: PT / PTT / INR:13.9/38.0/1.2, CK / CKMB /
   Troponin-T:10/3/0.13, ALT / AST:24/39, Alk Phos / T Bili:234/4.6,
   Amylase / Lipase:46/47, Differential-Neuts:84.0 %, Band:1.0 %,
   Lymph:6.0 %, Mono:7.0 %, Eos:0.0 %, D-dimer:3940 ng/mL, Fibrinogen:526
   mg/dL, Albumin:1.9 g/dL, LDH:250 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   75-year-old woman with cholangitis (s/p multiple ERCPs c/b bleeding),
   AFib, VRE bacteremia, and difficult venous access on a background of
   ESRD due to amyloidosis.  Many of her acute issues have improved, but
   we are evaluating a marked CT abnormality of her liver.
   Thrombocytopenia: DIC and HIT labs negative, question of consumption
   with GI bleed yesterday and possible splenic sequestration in setting
   of liver mass), plts stable since yesterday
   Melena:  2 episodes today with stable HCT, [**Hospital1 **] HCT, Hepatology to see
   this AM re role of scope
   Hepatic mass: Unclear etiology.  Obtained OSH outside hospital CT
   scans; report suggests finding was there previously but need to be
   reviewed.Consulted hepatology for guidance regarding drainage,
   sampling, further eval (e.g. MRI), etc.
   Sepsis / VRE bacteremia: Source of VRE is presumptively biliary.
   However, there is always the possibility of secondary seeding.
   o         TTE unremarkable
   o         Line management is complicated given very difficult access
   issues but if  fistula functioning, discuss with renal about d/c
   dialysis catheter today
              CVL was changed (by wire) with negative tip.
          consider PICC if cx remain negative
   CAD: s/p stent on [**2185-3-15**] - clarify id bare mental versus drug eleuting
   and may need to restart Plavix
   ESRD : Access issues as above.  HD per renal tommorow
   Atrial fibrillation : Stable at present on amiodarone, now in sinus.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-4-17**] 12:30 PM
   Multi Lumen - [**2185-4-22**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: